2200-04-01 07:26:00 Physician Resident Progress Note
Chief Complaint: Dyspnea and wheezing
   24 Hour Events:
   - Patient presented with fingerstick blood sugars above assay and was
   mangaged with subcutaneous insulin, AG after presentation to the floor
   was 10 and remained closed overnight
   - Received breathing treatments overnight with relief of dyspnea and
   wheezing
   - Respiratory status slightly too tenuous to allow oral intake at this
   time
   Reports improved dyspnea since admission. Ongoing intermittent rigors.
   Cough with increasing grey sputum production. Reports some thirst.
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-3-31**] 06:00 PM
   Infusions:
   Other ICU medications:
   Meperidine (Demerol) - [**2200-3-31**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-3-31**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-1**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 74 (74 - 86) bpm
   BP: 99/39(53) {88/30(48) - 120/98(105)} mmHg
   RR: 23 (18 - 35) insp/min
   SpO2: 95%
   Height: 64 Inch
             Total In:
                                                                  1,380 mL
                                                                    544 mL
   PO:
                                                                    180 mL
   TF:
   IVF:
                                                                  1,200 mL
                                                                    544 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    455 mL
   Urine:
                                                                    355 mL
                                                                    455 mL
   Balance:
                                                                  1,025 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: 5L Nasal cannula
   SpO2: 95%
   VBG: 7.38/39 at presentation (unable to obtain ABG)
   Physical Examination
   GEN: Appears tachypneic while sitting up in bed, slight rigor
   HEENT: PERRL, EOMI, oral mucosa moist
   NECK: Suplle, no LAD
   PULM: Diffuse posterior fine crackles, bibasilar posterior coarse
   crackles, inspiratory squeaks bilaterally, and poor expiratory air
   movement with rare wheezes
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Oriented x 3, appears fatigued
   PSYCH: Mood and affect appropriate
   Labs / Radiology
   197 K/uL
   9.7 g/dL
   247 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   105 mEq/L
   135 mEq/L
   28.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2200-3-31**]  10:20 PM
                             [**2200-4-1**]  04:30 AM
   WBC
   11.5
   9.1
   Hct
   29.6
   28.1
   Plt
   219
   197
   Cr
   1.1
   1.0
   Glucose
   152
   247
   Other labs: PT / PTT / INR:14.2/24.4/1.2, ALT / AST:13/26, Alk Phos / T
   Bili:77/0.5, Lactic Acid:1.1 mmol/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.3 mg/Dl
   MICRO:
   [**3-31**] Blood cx x 2: NGTD
   [**3-31**] Urine cx: NGTD
   [**3-31**] Urine Legionella antigen: negative
   Assessment and Plan
   60 F with ILD, DM I; admit with cough, dyspnea and evidence of
   pneumonia on CXR, to MICU with persistent tachypnea and relatively high
   oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia most likely tied to her fevers,
   leukocytosis, and sputum production pointing to a community-acquired
   pneumonia. Ideally would receive atypical coverage (such as
   azithromycin) as well as coverage with a beta-lactam antibiotic. We are
   severely limited currently due to reported tounge swelling penicillin
   allergy. Urine legionella antigen is negative. Must also consider an
   acute worsening of ILD. Oxygen sats have been stable in the ICU.
   - Follow-up sputum cultures
   - Continue Vancomycin and Levofloxacin at this time and consult ID for
   better ICU CAP coverage in this penicillin allergic patient with
   additionally reported carbapenem as well as aztreonam allergy.
   - Continue albuterol and ipratropium nebs
   - Pulmonary hygiene with chest physiotherapy, up to chair as tolerated,
   humidified oxygen, nebs
   - Liberate from supplemental oxygen as tolerated
   - Contact Dr. [**Last Name (STitle) 104**] in order to discuss her care as related to her
   underlying ILD
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Somewhat erratic glycemic control overnight
   with FSBS in the mid-200s. On insulin pump with [**Last Name (STitle) 1565**]. Would likely
   benefit from tighter glycemic control while acutely ill.
   - Consult [**Last Name (un) 72**] to assist in blood sugar management
   - Low threshold to start insulin gtt
   - Diabetic diet when diet is initiated
   # Metabolic acidosis:
   Likely contribution of lactic acid and beginnings of DKA. At
   presentation had mildly elevated lactate as well as ketones in the
   urine. This AM her AG is 10.
   - [**Hospital1 **] lytes
   - Management of infection/sepsis/hyperglycemia
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition:  Sips, while with tenuous respiratory status, likely to eat
   later this AM
   Glycemic Control:  Currently insulin pump as basal delivery of insulin
   with [**Last Name (LF) 1565**], [**First Name3 (LF) 124**] likely need tighter control and we look to [**Last Name (un) 72**] for
   assistance with this
   Lines:
   18 Gauge x 2
   Prophylaxis:
   DVT: Heparin subcutaneous and pneumoboots
   Stress ulcer: Omeprazole
   Communication:  With patient
   Code status: Full code
   Disposition: To remain in ICU while respiratory status improves.

2200-04-02 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - intubated urgently at 6am this morning with difficulty, able to
   achieve LMA only. plan to go to OR for more secure airway placement,
   now returned with trach as unable to obtain safe oral airway
   - placed on insulin drip, [**Last Name (un) 72**] in agreement and following
   - ID recs would cont levo/vanco for now as good coverage.  If suspect
   pseudomonas, could change levo to ?cipro.  If decompensates, could
   consider meropenem since [**00**]% cross reactivity with aztreonam, follow
   sputum cultures
   - increased vanco dosing given improved renal function
 SPUTUM CULTURE - At [**2200-4-1**] 10:18 PM
   resent
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-1**] 08:36 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-1**] 10:00 PM
   Propofol - [**2200-4-2**] 07:12 AM
   Vecuronium - [**2200-4-2**] 07:13 AM
   Midazolam (Versed) - [**2200-4-2**] 07:13 AM
   Fentanyl - [**2200-4-2**] 07:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-2**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 36.8
C (98.2
   HR: 80 (74 - 103) bpm
   BP: 120/55(71) {78/19(49) - 197/98(109)} mmHg
   RR: 27 (23 - 45) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,182 mL
                                                                    753 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                  1,862 mL
                                                                    753 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    115 mL
   Urine:
                                                                  1,255 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    927 mL
                                                                    638 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.44/32/42/19/0
   PaO2 / FiO2: 42
   Physical Examination
   GEN: prior to intubation, appeared tachypneic while sitting up in bed,
   slight rigor. Now intubated, with trach
   HEENT: oral mucosa moist, trach in place
   NECK: Supple, no LAD
   PULM: Diffuse bibasilar posterior coarse crackles, poor expiratory air
   movement with wheezes
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  prior to intubation, oriented x 3, appearing fatigued, now
   sedated
   PSYCH: Mood and affect appropriate
   Labs / Radiology
   261 K/uL
   11.1 g/dL
   80 mg/dL
   0.9 mg/dL
   19 mEq/L
   3.8 mEq/L
   9 mg/dL
   109 mEq/L
   139 mEq/L
   32.4 %
   14.2 K/uL
        [image002.jpg]
                             [**2200-3-31**]  10:20 PM
                             [**2200-4-1**]  04:30 AM
                             [**2200-4-2**]  03:25 AM
                             [**2200-4-2**]  06:15 AM
   WBC
   11.5
   9.1
   14.2
   Hct
   29.6
   28.1
   32.4
   Plt
   [**Telephone/Fax (3) 5624**]
   Cr
   1.1
   1.0
   0.9
   TCO2
   22
   Glucose
   152
   247
   80
   Other labs: PT / PTT / INR:14.2/24.4/1.2, ALT / AST:13/26, Alk Phos / T
   Bili:77/0.5, Lactic Acid:1.1 mmol/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   60 F with ILD, DM I; admit with cough, dyspnea and evidence of
   pneumonia on CXR, to MICU with persistent tachypnea and relatively high
   oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will now need esophageal ballon, a-line and
   adjustment of vent settings. Bronch after vent. Is settled. Still would
   treat PNA, ideally with atypical coverage (such as azithromycin) as
   well as coverage with a beta-lactam antibiotic. We are severely limited
   currently due to reported tounge swelling penicillin allergy. Urine
   legionella antigen is negative. Can obtain BAL/mini-BAL for culture.
   - esophageal balloon, a-line, adjustment of vent settings
   - BAL vs. mini-BAL
   - Follow-up sputum cultures
   - Continue Vancomycin and Levofloxacin at this time and consult ID for
   better ICU CAP coverage in this penicillin allergic patient with
   additionally reported carbapenem as well as aztreonam allergy.
   - Continue albuterol and ipratropium nebs
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Somewhat erratic glycemic control overnight
   with FSBS in the mid-200s then 80 this morning. On insulin drip with
   [**Last Name (un) 72**] following. Would likely benefit from tighter glycemic control
   while acutely ill.
   - cont insulin drip
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 72**] recs
   # Metabolic acidosis:
   Likely contribution of lactic acid and beginnings of DKA. At
   presentation had mildly elevated lactate as well as ketones in the
   urine. This AM her AG is 11.
   - Management of infection/sepsis/hyperglycemia
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2200-3-31**] 06:35 PM
   20 Gauge - [**2200-4-1**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-03 07:21:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Resp distress in early AM on [**4-2**] with desats to 70's. Intubated in
   MICU with multiple attempts by anesthesia, tooth trauma, taken to OR,
   trach in OR
   - ID recs cont vanco/levo for CAP, add flagyl for traumatic intubation,
   viral screen, PCP DFA
   [**Name Initial (PRE) **] [**Name9 (PRE) **] [**Doctor First Name 91**] recs stitches x7d
   - Placed on ARDS protocol, sedation with fent/versed
   - A-line, esophageal balloon placed and later discontinued
   - Awaiting nutrition recs for TF
   - Plan CT head when stable
   - Spiked a fever to 101.6 at 0400 on [**2200-4-3**], blood and urine cultures
   sent
   Patient minimally responsive to voice this AM.
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-2**] 08:31 AM
   Vancomycin - [**2200-4-2**] 08:00 PM
   Metronidazole - [**2200-4-3**] 05:40 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-2**] 09:00 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-3**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 84 (65 - 88) bpm
   BP: 107/44(64) {90/39(55) - 128/51(77)} mmHg
   RR: 27 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  4,406 mL
                                                                    397 mL
   PO:
   TF:
   IVF:
                                                                  3,746 mL
                                                                    397 mL
   Blood products:
                                                                    600 mL
   Total out:
                                                                    615 mL
                                                                    145 mL
   Urine:
                                                                    615 mL
                                                                    145 mL
   Balance:
                                                                  3,791 mL
                                                                    252 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 800) mL
   RR (Set): 28
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 80 cmH2O/mL
   SpO2: 97%
   ABG: 7.34/43/96.[**Numeric Identifier 7**]/21/-2
   Ve: 13.7 L/min
   PaO2 / FiO2: 139
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: oral mucosa moist, trach in place
   NECK: Supple, no LAD
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Sedate, following simple commands to move all 4 extremities
   Labs / Radiology
   206 K/uL
   9.2 g/dL
   62 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.0 mEq/L
   15 mg/dL
   112 mEq/L
   140 mEq/L
   26.8 %
   10.4 K/uL
        [image002.jpg]
                             [**2200-4-1**]  04:30 AM
                             [**2200-4-2**]  03:25 AM
                             [**2200-4-2**]  06:15 AM
                             [**2200-4-2**]  11:33 AM
                             [**2200-4-2**]  01:26 PM
                             [**2200-4-2**]  05:14 PM
                             [**2200-4-2**]  11:38 PM
                             [**2200-4-3**]  02:44 AM
                             [**2200-4-3**]  03:02 AM
                             [**2200-4-3**]  05:09 AM
   WBC
   9.1
   14.2
   10.4
   Hct
   28.1
   32.4
   26.8
   Plt
   197
   261
   206
   Cr
   1.0
   0.9
   0.9
   TCO2
   22
   20
   23
   24
   22
   24
   24
   Glucose
   247
   80
   62
   Other labs: PT / PTT / INR:14.0/27.7/1.2, ALT / AST:13/26, Alk Phos / T
   Bili:77/0.5, Differential-Neuts:88.5 %, Lymph:7.8 %, Mono:3.3 %,
   Eos:0.2 %, Lactic Acid:0.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.4 mg/dL
   MICRO:
   [**2200-4-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING (NGTD)
   [**2200-4-3**]  URINE URINE CULTURE-PENDING (NGTD)
   [**2200-4-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   (NGTD)
   [**2200-3-31**]  URINE Legionella Urinary Antigen -FINAL (negative)
   [**2200-3-31**]  URINE URINE CULTURE-FINAL (No Growth)
   [**2200-3-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING (NGTD)
   [**2200-3-31**]  BLOOD CULTURE Blood Culture, Routine-PENDING (NGTD)
   Assessment and Plan
   60 F with ILD, DM I; admit with cough, dyspnea and evidence of
   pneumonia on CXR, to MICU with persistent tachypnea and relatively high
   oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Endotracheal sputum
   with two poor samples prior to good sample this morning with no
   organisms on gram stain. Ventilation was initially volume control. On
   rounds this AM patient switched to PSV and appears comfortable on 5 of
   pressure support above PEEP of 16.
   - Maintain on PSV at this time and repeat ABG later today
   - Continue Vancomycin, Levofloxacin, Metronidazole
   - Bronchoscopy today with bacterial and viral cultures
   - Follow-up sputum culture
   - Rapid respiratory viral screen today with PCP DFA
   [**Name Initial (PRE) **] Appreciate ongoing ID input
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs regarding new tracheostomy
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: NG tube in place with nutrition tube-feeding recs pending
   Glycemic Control:  Insulin drip
   Lines:
   Attempt PICC line today.
   Arterial Line - [**2200-4-2**] 11:00 AM
   20 Gauge - [**2200-4-2**] 11:52 AM
   18 Gauge - [**2200-4-2**] 09:22 PM
   Prophylaxis:
   DVT: Heparin subcutaneous
   Stress ulcer: Lansoprazole
   VAP:  Vent bundle
   Communication:  With HCP, [**Name (NI) 2668**] [**Name (NI) 334**] [**Telephone/Fax (1) 5650**]
   Code status: FULL
   Disposition: To remain in ICU
   ------ Protected Section ------
   Add to Assessment and Plan:
   # Fevers:
   Patient with spike to 101.6 overnight. Blood and urine cultures sent.
   Sputum cultures pending.
   - Follow-up blood cultures
   - Follow-up urine cultures
   - Follow-up sputum cultures
   ------ Protected Section Addendum Entered By:[**Name (NI) 786**] [**Last Name (NamePattern1) 5467**], MD
   on:[**2200-4-3**] 14:45 ------

2200-04-04 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - PICC line placed successfully.
   - Bronch with BAL performed and gram stain with PMNs, no organisms.
   - Rapid Respiratory Viral Antigen Test was negative.
   - Was ventilated on PSV 5/16 with evening ABG of 7.34/41/106
   - Patient's family came to visit her and preliminary results of
   bronchoscopy and BAL were discussed with them
   - Desats to mid-70s in the morning. Sedation increased, suctioned, FiO2
   increased, sats recovered
 BRONCHOSCOPY - At [**2200-4-3**] 12:24 PM
 PICC LINE - START [**2200-4-3**] 06:50 PM
 FEVER - 101.8
F - [**2200-4-3**] 08:00 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-3**] 09:15 AM
   Vancomycin - [**2200-4-3**] 08:15 PM
   Metronidazole - [**2200-4-4**] 05:28 AM
   Infusions:
   Insulin - Regular - 2 units/hour
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Fentanyl - [**2200-4-3**] 01:28 PM
   Heparin Sodium (Prophylaxis) - [**2200-4-3**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-4**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.3
C (100.9
   HR: 79 (77 - 87) bpm
   BP: 118/53(74) {97/41(61) - 119/54(74)} mmHg
   RR: 29 (19 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,384 mL
                                                                    561 mL
   PO:
             TF:
                                                                     52 mL
                                                                    144 mL
   IVF:
                                                                  2,212 mL
                                                                    416 mL
   Blood products:
   Total out:
                                                                    702 mL
                                                                    230 mL
   Urine:
                                                                    702 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,682 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 543 (429 - 555) mL
   PS : 10 cmH2O
   RR (Set): 28
   RR (Spontaneous): 24
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 95%
   ABG: 7.36/41/96.[**Numeric Identifier 7**]/21/-1
   Ve: 11.4 L/min
   PaO2 / FiO2: 139
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: oral mucosa moist, trach in place
   NECK: Supple, no LAD
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   230 K/uL
   8.3 g/dL
   150 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.3 mEq/L
   23 mg/dL
   111 mEq/L
   139 mEq/L
   26.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2200-4-2**]  05:14 PM
                             [**2200-4-2**]  11:38 PM
                             [**2200-4-3**]  02:44 AM
                             [**2200-4-3**]  03:02 AM
                             [**2200-4-3**]  05:09 AM
                             [**2200-4-3**]  10:39 AM
                             [**2200-4-3**]  03:16 PM
                             [**2200-4-3**]  06:39 PM
                             [**2200-4-4**]  01:47 AM
                             [**2200-4-4**]  03:13 AM
   WBC
   10.4
   8.8
   Hct
   26.8
   26.0
   Plt
   206
   230
   Cr
   0.9
   0.9
   TCO2
   24
   22
   24
   24
   24
   23
   23
   24
   Glucose
   62
   150
   Other labs: PT / PTT / INR:14.9/30.5/1.3, ALT / AST:13/26, Alk Phos / T
   Bili:77/0.5, Differential-Neuts:88.5 %, Lymph:7.8 %, Mono:3.3 %,
   Eos:0.2 %, Lactic Acid:1.1 mmol/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   This is a 60 year old female with ILD, DM I; admit with cough, dyspnea
   and evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Endotracheal sputum
   with two poor samples prior to good sample this morning with no
   organisms on gram stain. Ventilation was initially volume control. On
   rounds this AM patient switched to PSV and appears comfortable on 5 of
   pressure support above PEEP of 16.
   - Maintain on PSV at this time and repeat ABG later today
   - Continue Vancomycin, Levofloxacin, Metronidazole
   - f/u BAL cultures
   - Follow-up sputum cultures
   - Appreciate ongoing ID input
   - Continue albuterol and ipratropium
   - trial of diuresis today
   - Appreciate thoracic surgery recs regarding new tracheostomy
   # Fever:
   Patient has been intermittently spiking to ~101F overnight and this
   morning. Has new cultures pending. Will check LFT
s, lipase,
   differential looking for other brewing infection
   - check LFT
s, lipase, differential
   - f/u cultures
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-3**] 06:49 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   18 Gauge - [**2200-4-2**] 09:22 PM
   20 Gauge - [**2200-4-3**] 04:30 PM
   PICC Line - [**2200-4-3**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-05 07:27:00 Physician Resident Progress Note
Chief Complaint: +
   24 Hour Events:
 FEVER - 101.5
F - [**2200-4-4**] 08:00 AM
   - required increase in FiO2 to 80% in late afternoon (minimum was 70%)
   followed by increase to 100% briefly during the evening due to
   desaturation with repositioning
   - unable to tolerate tube feeds (high residuals) which were held and
   reglan started. Feeds restarted after residuals came down.
   - Had to go back up on sedation (minumum was fentanyl/versed 25/1)
   - No BM as of midnight.
   - increased vanc to 1250mg q12h
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-4**] 10:01 AM
   Vancomycin - [**2200-4-4**] 08:00 PM
   Metronidazole - [**2200-4-5**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-4**] 08:45 AM
   Furosemide (Lasix) - [**2200-4-4**] 11:45 PM
   Fentanyl - [**2200-4-5**] 02:47 AM
   Midazolam (Versed) - [**2200-4-5**] 02:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-5**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.6
C (99.6
   HR: 80 (76 - 97) bpm
   BP: 117/52(72) {95/47(67) - 140/70(83)} mmHg
   RR: 24 (18 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,607 mL
                                                                    419 mL
   PO:
                                                                    180 mL
             TF:
                                                                    488 mL
                                                                      6 mL
   IVF:
                                                                  1,729 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  1,517 mL
                                                                    385 mL
   Urine:
                                                                  1,517 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 616 (508 - 638) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.34/47/75/19/0
   Ve: 13 L/min
   PaO2 / FiO2: 107
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: oral mucosa moist, trach in place
   NECK: Supple, no LAD
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   242 K/uL
   8.8 g/dL
   182 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   111 mEq/L
   141 mEq/L
   26.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2200-4-3**]  06:39 PM
                             [**2200-4-4**]  01:47 AM
                             [**2200-4-4**]  03:13 AM
                             [**2200-4-4**]  08:31 AM
                             [**2200-4-4**]  02:40 PM
                             [**2200-4-4**]  04:24 PM
                             [**2200-4-4**]  05:40 PM
                             [**2200-4-5**]  04:10 AM
                             [**2200-4-5**]  04:20 AM
                             [**2200-4-5**]  06:25 AM
   WBC
   8.8
   12.2
   Hct
   26.0
   26.4
   Plt
   230
   242
   Cr
   0.9
   1.0
   TCO2
   23
   24
   24
   22
   25
   24
   23
   26
   Glucose
   150
   182
   Other labs: PT / PTT / INR:14.9/30.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:86.5 %,
   Lymph:9.3 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:834
   IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 60 year old female with ILD, DM I; admit with cough, dyspnea
   and evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Endotracheal sputum
   with two poor samples prior to good sample this morning with no
   organisms on gram stain. Ventilation was initially volume control. On
   rounds this AM patient switched to PSV and appears comfortable on 5 of
   pressure support above PEEP of 16.  Tolerated trial of lasix.
   - Maintain on PSV at this time and repeat ABG later today
   - Continue Vancomycin, Levofloxacin, Metronidazole
   - f/u BAL cultures
   - Follow-up sputum cultures
   - Appreciate ongoing ID input
 rec vanco trough now dosing higher dose
   of vanco
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs regarding new tracheostomy
   - will increase solumedrol today to 125mg q6 from q8 yesterday
   # Fever:
   Patient has been intermittently spiking to ~101F overnight and the
   morning of [**4-4**].  Has new cultures pending.
   - f/u cultures
   - cont vanco, levo, flagyl
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   FEN:  Tube Feeds
   Prophylaxis: heparin sq/pneumoboots, PPI, bowel regimen
   Access:  [**Last Name (LF) 1403**], [**First Name3 (LF) **], PICC
   Communication:  Partner
   [**Name (NI) 156**] Status: Full
   Dispo:  ICU for now
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-4**] 05:15 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   18 Gauge - [**2200-4-2**] 09:22 PM
   20 Gauge - [**2200-4-3**] 04:30 PM
   PICC Line - [**2200-4-3**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-05 08:21:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2200-4-4**] 08:00 AM
   O2 needs up overnight, now back to 70%
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-4**] 10:01 AM
   Vancomycin - [**2200-4-4**] 08:00 PM
   Metronidazole - [**2200-4-5**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Insulin - Regular - 6 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-4**] 08:45 AM
   Furosemide (Lasix) - [**2200-4-4**] 11:45 PM
   Fentanyl - [**2200-4-5**] 02:47 AM
   Midazolam (Versed) - [**2200-4-5**] 02:48 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-5**] 08:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.6
C (99.6
   HR: 80 (78 - 97) bpm
   BP: 117/52(72) {114/47(67) - 140/58(81)} mmHg
   RR: 24 (18 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,607 mL
                                                                    471 mL
   PO:
                                                                    180 mL
             TF:
                                                                    488 mL
                                                                     20 mL
   IVF:
                                                                  1,729 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  1,517 mL
                                                                    385 mL
   Urine:
                                                                  1,517 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,090 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 723 (508 - 723) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 16 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.34/47/75/19/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 107
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   242 K/uL
   182 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.7 mEq/L
   29 mg/dL
   111 mEq/L
   141 mEq/L
   26.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2200-4-3**]  06:39 PM
                             [**2200-4-4**]  01:47 AM
                             [**2200-4-4**]  03:13 AM
                             [**2200-4-4**]  08:31 AM
                             [**2200-4-4**]  02:40 PM
                             [**2200-4-4**]  04:24 PM
                             [**2200-4-4**]  05:40 PM
                             [**2200-4-5**]  04:10 AM
                             [**2200-4-5**]  04:20 AM
                             [**2200-4-5**]  06:25 AM
   WBC
   8.8
   12.2
   Hct
   26.0
   26.4
   Plt
   230
   242
   Cr
   0.9
   1.0
   TCO2
   23
   24
   24
   22
   25
   24
   23
   26
   Glucose
   150
   182
   Other labs: PT / PTT / INR:14.9/30.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:86.5 %,
   Lymph:9.3 %, Mono:3.0 %, Eos:1.0 %, Lactic Acid:1.2 mmol/L, LDH:834
   IU/L, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA) -
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP), ARDS
 continue to
   suspect infection
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERGLYCEMIA
 on insulin gtt
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-4**] 05:15 PM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   18 Gauge - [**2200-4-2**] 09:22 PM
   20 Gauge - [**2200-4-3**] 04:30 PM
   PICC Line - [**2200-4-3**] 06:50 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2200-04-06 07:18:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Fever spike to 101.3 yesterday with blood and urine cultures sent
   - ID recs vanco trough with increased dosing
   - [**Last Name (un) 72**] recs no change
   - Increased solumedrol to 125mg q6
   - lasix 10iv x1, lasix 20iv x1
   - Desat to mid-70s this AM which was treated with sedation, suction,
   FiO2 increase to 100%. Patient was wheezy and albuterol and ipratropium
   given
   Patient too sedate for ROS.
   Allergies:
   Penicillins -- Anaphylaxis
   Lamictal (Oral) (Lamotrigine) -- Rash
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-5**] 10:08 AM
   Vancomycin - [**2200-4-5**] 08:00 PM
   Metronidazole - [**2200-4-5**] 11:30 PM
   Infusions:
   Fentanyl - 60 mcg/hour
   Insulin - Regular - 5 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-6**] 12:15 AM
   Furosemide (Lasix) - [**2200-4-6**] 12:15 AM
   Fentanyl - [**2200-4-6**] 06:30 AM
   Midazolam (Versed) - [**2200-4-6**] 06:30 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-6**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 75 (72 - 84) bpm
   BP: 109/64(80) {81/41(61) - 148/133(141)} mmHg
   RR: 32 (14 - 35) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,336 mL
                                                                    519 mL
   PO:
             TF:
                                                                    148 mL
                                                                    171 mL
   IVF:
                                                                  1,813 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    710 mL
   Urine:
                                                                  1,205 mL
                                                                    710 mL
   NG:
                                                                    200 mL
   Balance:
                                                                    931 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 87 (87 - 783) mL
   PS : 5 cmH2O
   RR (Spontaneous): 34
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.35/44/75/21/-1
   Ve: 13.6 L/min
   PaO2 / FiO2: 125
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: Oral mucosa moist,
   NECK: Thick, trach in place with secretions surrounding
   PULM: Diffuse coarse crackles and rhonchi anteriorly with expiratory
   wheezing
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   203 K/uL
   8.4 g/dL
   137 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.4 mEq/L
   45 mg/dL
   113 mEq/L
   146 mEq/L
   25.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2200-4-4**]  08:31 AM
                             [**2200-4-4**]  02:40 PM
                             [**2200-4-4**]  04:24 PM
                             [**2200-4-4**]  05:40 PM
                             [**2200-4-5**]  04:10 AM
                             [**2200-4-5**]  04:20 AM
                             [**2200-4-5**]  06:25 AM
                             [**2200-4-5**]  06:17 PM
                             [**2200-4-6**]  05:15 AM
                             [**2200-4-6**]  05:40 AM
   WBC
   12.2
   13.5
   Hct
   26.4
   25.0
   Plt
   242
   203
   Cr
   1.0
   1.1
   1.2
   TCO2
   24
   22
   25
   24
   23
   26
   25
   Glucose
   182
   173
   137
   Other labs: PT / PTT / INR:14.9/30.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:97.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   LDH:834 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Sputum and BAL sample
   with no growth at this time. Had rapid viral antigens return as
   negative. PCP stain was negative. Patient has been ventilated on
   pressure support 5 over 16 of PEEP and has been tolerating aside from
   brief desaturations. FiO2 currently at 60%.
   - Maintain on PSV at this time
   - Continue Vancomycin, Levofloxacin, Metronidazole
   - Follow-up BAL cultures
   - Follow-up sputum cultures
   - Send suction specimen for culture today
   - Appreciate ongoing ID input
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs regarding new tracheostomy
   - Will maintain solumedrol at 125mg every 6 hours
   - Fluid balance even to negative 500 mL
   # Fever:
   Patient has been intermittently spiking to ~101F overnight and the
   morning of [**4-4**].  Has new blood and urine cultures pending. All blood
   cultures and urine cultures negative thus far.
   - Follow-up pending blood and urine cultures.
   - Send stool for c.diff
   - Continue Vancomycin, Levofloxacin, Metronidazole
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Ensure (Full) - [**2200-4-5**] 07:53 PM 30 mL/hour
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Prophylaxis:
   DVT: heparin subcutaneous, pneumoboots
   Stress ulcer: PPI
   VAP:
   Communication:  Partner, [**First Name8 (NamePattern2) 2668**] [**Last Name (NamePattern1) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU care

2200-04-06 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2200-4-5**] 09:00 PM
   a-line
 URINE CULTURE - At [**2200-4-5**] 09:30 PM
 BLOOD CULTURED - At [**2200-4-5**] 10:00 PM
   picc line
 FEVER - 101.3
F - [**2200-4-5**] 08:00 AM, 101 last night
   Another episode of desaturation
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-5**] 10:08 AM
   Vancomycin - [**2200-4-5**] 08:00 PM
   Metronidazole - [**2200-4-6**] 07:53 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Insulin - Regular - 5 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-4-6**] 12:15 AM
   Fentanyl - [**2200-4-6**] 06:30 AM
   Midazolam (Versed) - [**2200-4-6**] 06:30 AM
   Heparin Sodium (Prophylaxis) - [**2200-4-6**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-6**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.3
   HR: 79 (72 - 84) bpm
   BP: 122/46(70) {81/41(61) - 148/133(141)} mmHg
   RR: 18 (14 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,336 mL
                                                                    663 mL
   PO:
             TF:
                                                                    148 mL
                                                                    192 mL
   IVF:
                                                                  1,813 mL
                                                                    360 mL
   Blood products:
   Total out:
                                                                  1,405 mL
                                                                    710 mL
   Urine:
                                                                  1,205 mL
                                                                    710 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                    931 mL
                                                                    -47 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 579 (87 - 783) mL
   PS : 5 cmH2O
   RR (Spontaneous): 37
   PEEP: 16 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.35/44/75/21/-1
   Ve: 11.5 L/min
   PaO2 / FiO2: 125
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   203 K/uL
   137 mg/dL
   1.2 mg/dL
   21 mEq/L
   3.4 mEq/L
   45 mg/dL
   113 mEq/L
   146 mEq/L
   25.0 %
   13.5 K/uL
        [image002.jpg]
                             [**2200-4-4**]  08:31 AM
                             [**2200-4-4**]  02:40 PM
                             [**2200-4-4**]  04:24 PM
                             [**2200-4-4**]  05:40 PM
                             [**2200-4-5**]  04:10 AM
                             [**2200-4-5**]  04:20 AM
                             [**2200-4-5**]  06:25 AM
                             [**2200-4-5**]  06:17 PM
                             [**2200-4-6**]  05:15 AM
                             [**2200-4-6**]  05:40 AM
   WBC
   12.2
   13.5
   Hct
   26.4
   25.0
   Plt
   242
   203
   Cr
   1.0
   1.1
   1.2
   TCO2
   24
   22
   25
   24
   23
   26
   25
   Glucose
   182
   173
   137
   Other labs: PT / PTT / INR:14.9/30.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:97.0 %,
   Band:1.0 %, Lymph:1.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L,
   LDH:834 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   CXR stable
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 suspect lungs
   are source, continue to work-up as needed
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP), ARDS
 continue to
   suspect infection as underlying cause, continue current abx regimen,
   steroids started last night
 RESPIRATORY FAILURE
 continue current vent settings, working on
   diuresis
 HYPERGLYCEMIA/DM
 on insulin gtt
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-5**] 07:53 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Prophylaxis:
   DVT:  hep sc
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   icu
   Total time spent:   38

2200-04-07 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Right a-line discontinued and left a-line placed
   - Patient spiked a fever to 103.8 and had new blood cultures sent, was
   cooled with arctic sun, tylenol, ibuprofen
   - ID expressed concern for PICC infection, rec [**10-8**] day course of
   Vancomycin and [**4-1**] day course of metronidazole.
   - High vanc trough in AM led to AM vanc dose being held. Vanc
   reinitiated at 1000 mg Q12H with evening dose.
   - Potassium 2.9 on morning of [**4-7**], was given 40 mEq IV and 40 mEq PO
 SPUTUM CULTURE - At [**2200-4-6**] 11:49 AM
 BLOOD CULTURED - At [**2200-4-6**] 06:48 PM
   picc line
 EKG - At [**2200-4-6**] 06:48 PM
 ARTERIAL LINE - STOP [**2200-4-6**] 08:00 PM
 ARTERIAL LINE - START [**2200-4-6**] 08:00 PM
 BLOOD CULTURED - At [**2200-4-6**] 08:48 PM
   sample obtained from newly placed a-line
 STOOL CULTURE - At [**2200-4-6**] 10:59 PM
   spec for c. diff sent
 FEVER - 103.8
F - [**2200-4-6**] 07:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-6**] 08:03 AM
   Vancomycin - [**2200-4-6**] 09:58 PM
   Metronidazole - [**2200-4-7**] 12:00 AM
   Infusions:
   Insulin - Regular - 6 units/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-6**] 09:59 PM
   Furosemide (Lasix) - [**2200-4-7**] 02:15 AM
   Midazolam (Versed) - [**2200-4-7**] 06:10 AM
   Fentanyl - [**2200-4-7**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-7**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 37.7
C (99.8
   HR: 74 (73 - 106) bpm
   BP: 106/41(61) {90/40(59) - 165/65(101)} mmHg
   RR: 15 (15 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,433 mL
                                                                    963 mL
   PO:
             TF:
                                                                    778 mL
                                                                    390 mL
   IVF:
                                                                  1,264 mL
                                                                    473 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    710 mL
   Urine:
                                                                  2,475 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -42 mL
                                                                    253 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 662 (662 - 662) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 4
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.41/42/115/25/1
   Ve: 18 L/min
   PaO2 / FiO2: 230
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: Oral mucosa moist,
   NECK: Thick, trach in place with secretions surrounding
   PULM: Diffuse coarse crackles and rhonchi anteriorly with expiratory
   wheezing
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, NT, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   203 K/uL
   8.5 g/dL
   97 mg/dL
   1.3 mg/dL
   25 mEq/L
   2.9 mEq/L
   57 mg/dL
   109 mEq/L
   144 mEq/L
   25.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2200-4-5**]  04:10 AM
                             [**2200-4-5**]  04:20 AM
                             [**2200-4-5**]  06:25 AM
                             [**2200-4-5**]  06:17 PM
                             [**2200-4-6**]  05:15 AM
                             [**2200-4-6**]  05:40 AM
                             [**2200-4-6**]  02:00 PM
                             [**2200-4-6**]  05:10 PM
                             [**2200-4-7**]  03:45 AM
                             [**2200-4-7**]  03:48 AM
   WBC
   12.2
   13.5
   12.4
   Hct
   26.4
   25.0
   25.7
   Plt
   [**Telephone/Fax (3) 5730**]
   Cr
   1.0
   1.1
   1.2
   1.1
   1.3
   TCO2
   23
   26
   25
   28
   28
   Glucose
   182
   173
   137
   97
   Other labs: PT / PTT / INR:16.6/30.4/1.5, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L,
   LDH:834 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Sputum and BAL sample
   with no growth at this time. Had rapid viral antigens return as
   negative. PCP stain was negative. Patient has been having episodes of
   brief desaturations which seem to be related to some anxiety.
   - Continue Vancomycin, Levofloxacin, Metronidazole
   - f/u pending cultures
   - Appreciate ongoing ID input
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs regarding new tracheostomy
   - Will decrease solumedrol at 125mg to [**Hospital1 **] from q6 hours
   - Fluid balance even to negative 0.5-1.5 L/day, will increase lasix
   dosing
   # Fever:
   Patient has been intermittently spiking to >=101F.  Has new blood and
   urine cultures pending. All blood cultures and urine cultures negative
   thus far. Cdiff
ve. ID following.
   - Follow-up pending blood and urine cultures.
   - Continue Vancomycin, Levofloxacin, Metronidazole
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - will switch daily lantus to [**Hospital1 **] to try to even out glucose
   fluctuations.
   - Follow-up [**Last Name (un) 72**] recs
   # Depression/Anxiety:
   - Continue home meds.
   - will make Zyprexa standing in order to attempt to decrease
   anxiety/hypoxic episodes
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-7**] 02:08 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-07 12:14:00 Physician Attending Progress Note
Chief Complaint: respiratory failue
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with IPF, presented with infiltrates, PNA.  Difficult
   intubation, trached in the OR.  Continues on ventilator.  Has been
   febrile.
   24 Hour Events:
 SPUTUM CULTURE - At [**2200-4-6**] 11:49 AM
 BLOOD CULTURED - At [**2200-4-6**] 06:48 PM
   picc line
 EKG - At [**2200-4-6**] 06:48 PM
 ARTERIAL LINE - STOP [**2200-4-6**] 08:00 PM
 ARTERIAL LINE - START [**2200-4-6**] 08:00 PM
 BLOOD CULTURED - At [**2200-4-6**] 08:48 PM
   sample obtained from newly placed a-line
 STOOL CULTURE - At [**2200-4-6**] 10:59 PM
   spec for c. diff sent
 FEVER - 103.8
F - [**2200-4-6**] 07:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-7**] 08:30 AM
   Vancomycin - [**2200-4-7**] 09:00 AM
   Metronidazole - [**2200-4-7**] 09:29 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-6**] 09:59 PM
   Furosemide (Lasix) - [**2200-4-7**] 02:15 AM
   Midazolam (Versed) - [**2200-4-7**] 11:10 AM
   Fentanyl - [**2200-4-7**] 11:10 AM
   Other medications:
   KCl
   hep s/q
   fluoxetine
   topomax
   MVI
   pravastatin
   prevacid
   valproate
   buproprion
   dulcolax
   lantis
   medrol 125mg q6h
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-7**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 36.9
C (98.5
   HR: 73 (70 - 106) bpm
   BP: 115/44(66) {90/40(59) - 165/65(101)} mmHg
   RR: 15 (14 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,456 mL
                                                                  1,946 mL
   PO:
             TF:
                                                                    778 mL
                                                                    597 mL
   IVF:
                                                                  1,288 mL
                                                                  1,139 mL
   Blood products:
   Total out:
                                                                  2,475 mL
                                                                    970 mL
   Urine:
                                                                  2,475 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -19 mL
                                                                    976 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 1
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.43/42/80.[**Numeric Identifier 20**]/25/2
   Ve: 13 L/min
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: sedated, unresponsive
   Labs / Radiology
   8.5 g/dL
   203 K/uL
   95 mg/dL
   1.2 mg/dL
   25 mEq/L
   4.1 mEq/L
   57 mg/dL
   113 mEq/L
   146 mEq/L
   25.7 %
   12.4 K/uL
        [image002.jpg]
                             [**2200-4-5**]  06:25 AM
                             [**2200-4-5**]  06:17 PM
                             [**2200-4-6**]  05:15 AM
                             [**2200-4-6**]  05:40 AM
                             [**2200-4-6**]  02:00 PM
                             [**2200-4-6**]  05:10 PM
                             [**2200-4-7**]  03:45 AM
                             [**2200-4-7**]  03:48 AM
                             [**2200-4-7**]  08:20 AM
                             [**2200-4-7**]  09:02 AM
   WBC
   13.5
   12.4
   Hct
   25.0
   25.7
   Plt
   203
   203
   Cr
   1.1
   1.2
   1.1
   1.3
   1.2
   TCO2
   26
   25
   28
   28
   29
   Glucose
   173
   137
   97
   95
   Other labs: PT / PTT / INR:16.6/30.4/1.5, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:1.2 mmol/L,
   LDH:834 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Respiratory failure:  ARDS underlying ILD, with PNA.  Getting empiric
   therapy for PNA.   Making significant respriratory efforts.  Will try
   PSV on her.
   Interstitial lung disease:  reduce steroids.  Oxygenation has improved
   since starting high dose steroids.
   Fevers:  Unclear source, but has had fevers since admission.
   Sedation:  try zyprexa and wean midazolam
   fluid overload:  aim diuresis 1-2L negative/day.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-04-08 07:07:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
 FEVER - 101.3
F - [**2200-4-7**] 08:00 PM
   - Continued to require sedation to prevent desat episodes
   - Placed on standing zyprexa
   - Increased lasix
   - Lower extremity dopplers were performed with no note of lower
   extremity DVT
   - [**Last Name (un) 72**] endocrinology consult recommended increasing glargine dosing
   to 10 units twice daily
   - ID recommended continuing Vanc / levofloxacin / flagyl for [**10-8**]
   total days
   - Continues to have periodic oxygen desats that require increased
   sedation
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2200-4-7**] 08:30 AM
   Vancomycin - [**2200-4-7**] 08:05 PM
   Metronidazole - [**2200-4-8**] 01:01 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Insulin - Regular - 5.5 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-7**] 10:00 PM
   Furosemide (Lasix) - [**2200-4-8**] 04:18 AM
   Fentanyl - [**2200-4-8**] 06:30 AM
   Midazolam (Versed) - [**2200-4-8**] 06:30 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-8**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.4
C (99.3
   HR: 77 (70 - 98) bpm
   BP: 111/44(64) {101/37(55) - 165/64(96)} mmHg
   RR: 13 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,659 mL
                                                                    970 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    391 mL
   IVF:
                                                                  1,834 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  3,112 mL
                                                                  1,415 mL
   Urine:
                                                                  3,112 mL
                                                                  1,415 mL
   Balance:
                                                                    547 mL
                                                                   -445 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 801 (230 - 845) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 12
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/43/84.[**Numeric Identifier 117**]/26/2
   Ve: 10.7 L/min
   PaO2 / FiO2: 168
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: PERRL, Oral mucosa moist
   NECK: Thick, trach in place with no surrounding erythema
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   232 K/uL
   9.3 g/dL
   232 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   55 mg/dL
   112 mEq/L
   149 mEq/L
   28.5
   17.9
        [image002.jpg]
                             [**2200-4-6**]  05:40 AM
                             [**2200-4-6**]  02:00 PM
                             [**2200-4-6**]  05:10 PM
                             [**2200-4-7**]  03:45 AM
                             [**2200-4-7**]  03:48 AM
                             [**2200-4-7**]  08:20 AM
                             [**2200-4-7**]  09:02 AM
                             [**2200-4-7**]  04:29 PM
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:44 AM
   WBC
   12.4
   Hct
   25.7
   Plt
   203
   Cr
   1.1
   1.3
   1.2
   1.2
   TCO2
   25
   28
   28
   29
   29
   29
   Glucose
   97
   95
   175
   Other labs: PT / PTT / INR:16.6/30.4/1.5, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:3.0 mmol/L,
   LDH:834 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   MICRO:
   Blood cultures x 9: Pending and NGTD
   Urine culture x 4: NO GROWTH
   RESPIRATORY CULTURE (Final [**2200-4-8**]):    NO GROWTH
   C. Diff ([**2200-4-6**]):  NEGATIVE
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Sputum and BAL sample
   with no growth. Had rapid viral antigens return as negative. PCP stain
   was negative. Patient has been ventilated on pressure support 10 over
   16 of PEEP and has been tolerating aside from brief desaturations. FiO2
   currently at 50%, which has improved in last three days.
   - Attempt to decrease PEEP slowly
   - Continue Vancomycin, Levofloxacin, Metronidazole for 10 total days,
   ending on [**2200-4-11**]
   - Vancomycin trough this PM
   - Send suction specimen for culture today
   - Appreciate ongoing ID input
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs regarding new tracheostomy
   - Will maintain solumedrol at 125mg every 12 hours and continue to
   taper down
   - Fluid balance even to negative 500 mL
   # Fever:
   Patient has been intermittently spiking overnight. Had fever to 101.3
   Has new blood and urine cultures pending. All blood cultures and urine
   cultures negative thus far. Is c. diff negative. Will start to consider
   other causes of fever at this time.
   - Medication review for causes of pyrexia
   - Follow-up pending blood and urine cultures.
   - Send stool for c.diff
   - Continue Vancomycin, Levofloxacin, Metronidazole
   #Hypernatremia:
   Newly increased to 149 today.
   - Increase free water flushes in tube feeds to 100 mL every 4 hours
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Increase glargine to 10 units twice daily
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Ensure (Full) - [**2200-4-5**] 07:53 PM 30 mL/hour with free
   water flushes at 50 mL every six hours
   Glycemic Control:  Insulin drip
   Lines:
   Arterial Line - [**2200-4-2**] 11:00 AM
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Prophylaxis:
   DVT: heparin subcutaneous, pneumoboots
   Stress ulcer: PPI
   VAP:
   Communication:  Partner, [**First Name8 (NamePattern2) 2668**] [**Last Name (NamePattern1) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU care

2200-04-08 13:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ARDS, dyspnea, hypoxemia.  Spiked temp yesterdy night to 103
   24 Hour Events:
 FEVER - 101.3
F - [**2200-4-7**] 08:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-8**] 08:00 AM
   Levofloxacin - [**2200-4-8**] 08:00 AM
   Metronidazole - [**2200-4-8**] 09:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Insulin - Regular - 6 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-7**] 10:00 PM
   Furosemide (Lasix) - [**2200-4-8**] 04:18 AM
   Fentanyl - [**2200-4-8**] 11:38 AM
   Midazolam (Versed) - [**2200-4-8**] 12:30 PM
   Other medications:
   insulin drip
   glargine
   pravastatin
   topomax
   folate
   synthroid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-8**] 12:58 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.6
C (99.6
   HR: 77 (72 - 98) bpm
   BP: 120/46(69) {101/37(55) - 165/64(96)} mmHg
   RR: 16 (11 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,659 mL
                                                                  2,011 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    693 mL
   IVF:
                                                                  1,834 mL
                                                                  1,008 mL
   Blood products:
   Total out:
                                                                  3,112 mL
                                                                  1,860 mL
   Urine:
                                                                  3,112 mL
                                                                  1,860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    547 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 760 (230 - 845) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.42/43/84.[**Numeric Identifier 117**]/27/2
   Ve: 11.9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : course)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   232 K/uL
   109 mg/dL
   1.2 mg/dL
   27 mEq/L
   4.2 mEq/L
   55 mg/dL
   112 mEq/L
   149 mEq/L
   28.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2200-4-6**]  02:00 PM
                             [**2200-4-6**]  05:10 PM
                             [**2200-4-7**]  03:45 AM
                             [**2200-4-7**]  03:48 AM
                             [**2200-4-7**]  08:20 AM
                             [**2200-4-7**]  09:02 AM
                             [**2200-4-7**]  04:29 PM
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:27 AM
                             [**2200-4-8**]  06:44 AM
   WBC
   12.4
   17.9
   Hct
   25.7
   28.5
   Plt
   203
   232
   Cr
   1.1
   1.3
   1.2
   1.2
   1.2
   TCO2
   28
   28
   29
   29
   29
   Glucose
   97
   95
   175
   109
   Other labs: PT / PTT / INR:15.3/28.9/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:3.0 mmol/L,
   LDH:834 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Respiratory failure:  Will wean PEEP, as is breathing well on PSV.
   fevers:  still persistently febrile, unclear cause.  Further imaging
   with CT, etc would be risky given her quick desaturation.  Will
   continue to follow for know
   fluid overload:  aim 1L negative
   DM II:  on insulin drip
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-8**] 04:12 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   20 Gauge - [**2200-4-5**] 02:14 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-04-09 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued to be febrile, Bcx/Ucx from [**4-4**], [**4-5**], [**4-6**] neg
   - ID recs c.diff, cont vanc/levo/flagyl, cont daily cultures for
   temp>101.4
   - start pred 60mg qd tomorrow [**4-9**]
   - lasix gtt started, goal net neg 1L
   - vanco trough before 3rd dose 24, held PM dose
   - decreased PEEP to 12 from 16
 SPUTUM CULTURE - At [**2200-4-8**] 08:00 PM
 FEVER - 101.5
F - [**2200-4-8**] 08:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-8**] 08:00 AM
   Levofloxacin - [**2200-4-8**] 08:00 AM
   Metronidazole - [**2200-4-9**] 12:00 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-4-8**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-4-8**] 09:34 PM
   Midazolam (Versed) - [**2200-4-9**] 03:53 AM
   Fentanyl - [**2200-4-9**] 03:53 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37
C (98.6
   HR: 67 (66 - 101) bpm
   BP: 113/42(63) {104/39(58) - 161/66(99)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,549 mL
                                                                  1,000 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    386 mL
   IVF:
                                                                  1,589 mL
                                                                    343 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                  1,170 mL
   Urine:
                                                                  4,660 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,111 mL
                                                                   -170 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 710 (710 - 852) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: 7.46/49/86.[**Numeric Identifier 253**]/33/9
   Ve: 9.3 L/min
   PaO2 / FiO2: 174
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: PERRL, Oral mucosa moist
   NECK: Thick, trach in place with no surrounding erythema
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   263 K/uL
   9.9 g/dL
   143 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.5 mEq/L
   51 mg/dL
   107 mEq/L
   148 mEq/L
   30.2 %
   19.8 K/uL
        [image002.jpg]
                             [**2200-4-7**]  08:20 AM
                             [**2200-4-7**]  09:02 AM
                             [**2200-4-7**]  04:29 PM
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:27 AM
                             [**2200-4-8**]  06:44 AM
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
   WBC
   17.9
   19.8
   Hct
   28.5
   30.2
   Plt
   232
   263
   Cr
   1.2
   1.2
   1.2
   1.3
   TCO2
   29
   29
   29
   37
   35
   36
   Glucose
   95
   175
   109
   143
   Other labs: PT / PTT / INR:14.9/34.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:3.0 mmol/L,
   LDH:834 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Sputum and BAL sample
   with no growth. Had rapid viral antigens return as negative. PCP stain
   was negative. Patient is ventilated on pressure support 10 over 12 of
   PEEP and has been tolerating aside from brief desaturations. FiO2
   currently at 50%, which has improved in last three days.
   - Attempt to decrease PEEP slowly
   - Continue Vancomycin, Levofloxacin, Metronidazole for 10 total days,
   ending on [**2200-4-11**]
   - f/u cultures
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs, will need sutures out soon (7 days
   post-op will be Thurs. [**4-10**])
   - cont steroid prednisone 60mg today continue to taper down
   - Fluid balance -500cc - 1L
   # Fever:
   Patient has been intermittently spiking overnight and previously for
   days. Had fever to 101.5.  Has new blood and urine cultures pending.
   All blood cultures and urine cultures negative thus far. Is c. diff
   negative. Will start to consider other causes of fever at this time.
   - Medication review for causes of pyrexia
   - Appreciate ongoing ID input, will cont abx, consider Upper ext.
   ultrasound for clot. Will hold off on CT torso as part of FUO workup
   due to patient
s tenuous status and tendency to desat with movement.
   - Follow-up pending blood and urine cultures.
   - check LFTs, lipase, consider RUQ ultrasound if suspicious labs
   - Continue Vancomycin, Levofloxacin, Metronidazole
   #Hypernatremia: at 148 today.
   - free water flushes in tube feeds at 100 mL every 4 hours
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Increase glargine to 10 units twice daily
   - Follow-up [**Last Name (un) 72**] recs
   - discuss with pharmacy regarding mixing abx and other meds in NS
   rather than D5
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-9**] 06:18 AM 55 mL/hour
   Glycemic Control:  insulin drip and fixed dose glargine
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care

2200-04-09 11:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with PNA/ARDS, continued fevers with no clear source
   24 Hour Events:
 SPUTUM CULTURE - At [**2200-4-8**] 08:00 PM
 FEVER - 101.5
F - [**2200-4-8**] 08:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2200-4-9**] 08:00 AM
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Insulin - Regular - 4 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2200-4-8**] 12:00 PM
   Fentanyl - [**2200-4-9**] 08:10 AM
   Midazolam (Versed) - [**2200-4-9**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2200-4-9**] 08:37 AM
   Other medications:
   colace
   prozac
   levoxyl
   topomax
   folate
   pravastatin
   chlorhex rinse
   insulin drip
   flagyl
   olanzipine
   mvi
   glargine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-9**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 36.7
C (98.1
   HR: 70 (66 - 101) bpm
   BP: 102/39(57) {102/38(57) - 161/66(99)} mmHg
   RR: 11 (10 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,549 mL
                                                                  1,948 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    632 mL
   IVF:
                                                                  1,589 mL
                                                                    956 mL
   Blood products:
   Total out:
                                                                  4,660 mL
                                                                  2,020 mL
   Urine:
                                                                  4,660 mL
                                                                  2,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,111 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 883 (710 - 883) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: 7.46/49/86.[**Numeric Identifier 253**]/33/9
   Ve: 8.2 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : course rales R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   263 K/uL
   143 mg/dL
   1.3 mg/dL
   33 mEq/L
   3.5 mEq/L
   51 mg/dL
   107 mEq/L
   148 mEq/L
   30.2 %
   19.8 K/uL
        [image002.jpg]
                             [**2200-4-7**]  08:20 AM
                             [**2200-4-7**]  09:02 AM
                             [**2200-4-7**]  04:29 PM
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:27 AM
                             [**2200-4-8**]  06:44 AM
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
   WBC
   17.9
   19.8
   Hct
   28.5
   30.2
   Plt
   232
   263
   Cr
   1.2
   1.2
   1.2
   1.3
   TCO2
   29
   29
   29
   37
   35
   36
   Glucose
   95
   175
   109
   143
   Other labs: PT / PTT / INR:14.9/34.5/1.3, ALT / AST:33/61, Alk Phos / T
   Bili:196/0.5, Amylase / Lipase:31/8, Differential-Neuts:87.4 %,
   Band:1.0 %, Lymph:8.9 %, Mono:3.6 %, Eos:0.1 %, Lactic Acid:3.0 mmol/L,
   LDH:834 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure:  ARDS with PNA.  Wean peep down 2 at a time.  ABG
   looks great
   sedation:  very agitated and coughing once awake.  WIll add po sedation
   in attempt to wean off drips.  Will start valium 10mg tid
   prednisone of for ?fibrosis:  will do rapid wean as unclear if she's
   had any response to steroids
   hypernatremia:  free water
   DM II:  continue glargine and drip as [**First Name8 (NamePattern2) 77**] [**Last Name (un) 72**] recs
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-9**] 06:18 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2200-04-10 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2200-4-9**] 09:30 AM
   ? QTC interval
 BLOOD CULTURED - At [**2200-4-10**] 05:00 AM
   obtained from arterial line
   - PEEP decreased throughout day to level of 10 at night; however,
   patient had sustained desat to high 80s requiring increase in PEEP back
   to 12. FiO2 was stable at 50%
   - All antibiotics discontinued
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2200-4-9**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2200-4-9**] 09:59 PM
   Midazolam (Versed) - [**2200-4-10**] 05:00 AM
   Fentanyl - [**2200-4-10**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-10**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.1
C (100.6
   HR: 68 (60 - 92) bpm
   BP: 109/42(62) {96/37(55) - 157/63(99)} mmHg
   RR: 12 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,689 mL
                                                                  1,051 mL
   PO:
             TF:
                                                                  1,322 mL
                                                                    396 mL
   IVF:
                                                                  1,502 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  4,070 mL
                                                                  1,460 mL
   Urine:
                                                                  4,070 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -381 mL
                                                                   -409 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 694 (569 - 883) mL
   PS : 12 cmH2O
   RR (Spontaneous): 29
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 100%
   ABG: 7.48/56/103/38/16
   Ve: 17 L/min
   PaO2 / FiO2: 206
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: PERRL, Oral mucosa moist
   NECK: Thick, trach in place with no surrounding erythema
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   247 K/uL
   9.7 g/dL
   92 mg/dL
   1.2 mg/dL
   38 mEq/L
   3.1 mEq/L
   42 mg/dL
   100 mEq/L
   147 mEq/L
   29.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:27 AM
                             [**2200-4-8**]  06:44 AM
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
                             [**2200-4-9**]  07:06 PM
                             [**2200-4-10**]  04:50 AM
                             [**2200-4-10**]  04:58 AM
   WBC
   17.9
   19.8
   16.1
   Hct
   28.5
   30.2
   29.4
   Plt
   232
   263
   247
   Cr
   1.2
   1.3
   1.2
   TCO2
   29
   29
   37
   35
   36
   41
   43
   Glucose
   109
   143
   92
   Other labs: PT / PTT / INR:15.1/46.1/1.3, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:78.8 %,
   Band:1.0 %, Lymph:15.0 %, Mono:2.8 %, Eos:3.1 %, Lactic Acid:3.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Will use A-line and ABG for adjustment of vent
   settings. Urine legionella antigen is negative. Sputum and BAL sample
   with no growth. Had rapid viral antigens return as negative. PCP stain
   was negative. Patient is ventilated on pressure support 10 over 12 of
   PEEP and has been tolerating aside from brief desaturations. FiO2
   currently at 50%, which has improved in last three days.
   - PEEP dependent on patient sedation.  Attempt to decrease PEEP slowly
   as patient tolerates
   - All abx discontinued as unclear source of treatment.  Monitor status
   off abx
   - f/u cultures
   - Continue albuterol and ipratropium
   - Appreciate thoracic surgery recs, will need sutures out soon (7 days
   post-op will be Thurs. [**4-10**])
   - cont steroid prednisone 60mg today continue to taper down
   - Fluid balance -500cc - 1L
   # Fever:
   Patient has been intermittently spiking overnight and previously for
   days. Had fever to 101.5.  Has new blood and urine cultures pending.
   All blood cultures and urine cultures negative thus far. Is c. diff
   negative. Will start to consider other causes of fever at this time.
   All abx discontinued on [**4-9**] due to unclear source of treatment and
   continued fevers despite adequate course and selection of empiric
   antibiotics.
   - Medication review for causes of pyrexia
   - Appreciate ongoing ID input, will cont abx, consider Upper ext.
   ultrasound for clot. Will hold off on CT torso as part of FUO workup
   due to patient
s tenuous status and tendency to desat with movement.
   - Follow-up pending blood and urine cultures.
   - check LFTs, lipase, consider RUQ ultrasound if suspicious labs
   #Hypernatremia: at 148 today.
   - free water flushes in tube feeds at 100 mL every 4 hours
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following.
   - Cont insulin drip
   - Increase glargine to 10 units twice daily
   - Follow-up [**Last Name (un) 72**] recs
   - discuss with pharmacy regarding mixing abx and other meds in NS
   rather than D5
   # Depression:
   - Continue home meds.
   FEN:  Tube feeds
   Prophylaxis: Pneumoboots/heparin, PPI, Bowel regimen
   Access:  PICC
   Code:
   Dipso:  ICU for now while intubated
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-9**] 11:43 PM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-10 11:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 year old women with ILD, DM I, admitted with PNA and respiratory
   failure.  Peep decreased to 10 overnight, then had to go back up.  Tm
   102.7
   24 Hour Events:
 EKG - At [**2200-4-9**] 09:30 AM
   ? QTC interval
 BLOOD CULTURED - At [**2200-4-10**] 05:00 AM
   obtained from arterial line
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2200-4-9**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2200-4-10**] 08:40 AM
   Midazolam (Versed) - [**2200-4-10**] 09:16 AM
   Fentanyl - [**2200-4-10**] 09:16 AM
   Other medications:
   colace
   hep
   prozac
   synthroid
   topomax
   folate
   pravastatin
   chlorhexidine
   prevacid
   insulin  drip
   depakote
   wellbutrin
   valium
   zyprexa
   MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-10**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 39.3
C (102.7
   HR: 93 (65 - 94) bpm
   BP: 152/63(93) {96/37(55) - 157/63(99)} mmHg
   RR: 23 (10 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,636 mL
                                                                  1,783 mL
   PO:
             TF:
                                                                  1,323 mL
                                                                    648 mL
   IVF:
                                                                  1,448 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  4,070 mL
                                                                  2,550 mL
   Urine:
                                                                  4,070 mL
                                                                  2,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -434 mL
                                                                   -767 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 330 (330 - 840) mL
   PS : 12 cmH2O
   RR (Spontaneous): 33
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: 7.48/56/103/38/16
   Ve: 15.7 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : course)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   247 K/uL
   92 mg/dL
   1.2 mg/dL
   38 mEq/L
   3.1 mEq/L
   42 mg/dL
   100 mEq/L
   147 mEq/L
   29.4 %
   16.1 K/uL
        [image002.jpg]
                             [**2200-4-7**]  04:58 PM
                             [**2200-4-8**]  06:27 AM
                             [**2200-4-8**]  06:44 AM
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
                             [**2200-4-9**]  07:06 PM
                             [**2200-4-10**]  04:50 AM
                             [**2200-4-10**]  04:58 AM
   WBC
   17.9
   19.8
   16.1
   Hct
   28.5
   30.2
   29.4
   Plt
   232
   263
   247
   Cr
   1.2
   1.3
   1.2
   TCO2
   29
   29
   37
   35
   36
   41
   43
   Glucose
   109
   143
   92
   Other labs: PT / PTT / INR:15.1/46.1/1.3, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:78.8 %,
   Band:1.0 %, Lymph:15.0 %, Mono:2.8 %, Eos:3.1 %, Lactic Acid:3.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Microbiology: C. diff negative
   Assessment and Plan
   Respiratory failure:   PNA/ARDS.  Has completed course for CAP.  off
   antibiotics and observe.
   Will drop peep down to 8 and then start dropping PSV.
   Rapid prednisone taper:  will stop prednisone given 1 week course and
   no improvement
   Fevers: still no source WBC down today.
   agitation:  Started zyprexa yesterday to control agitation, increase to
   10mg tid.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-10**] 08:16 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2200-04-11 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Discontinued Prednisone
   - Increased Zyprexa however patient continued to require large amounts
   of sedation
   - decreased PEEP temporarily to 8 however she did not tolerate this
   well and was increased again to 10.
   - Upper ext ultrasound showed DVT in right arm, heparin drip started,
   has been supratherapeutic overnight.
   - patient with continuing fevers, no clear infection.
 ULTRASOUND - At [**2200-4-10**] 03:00 PM
   to r/o clots in arms
 BLOOD CULTURED - At [**2200-4-11**] 06:15 AM
 FEVER - 102.7
F - [**2200-4-10**] 11:00 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 2 units/hour
   Heparin Sodium - 600 units/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-4-10**] 08:40 AM
   Midazolam (Versed) - [**2200-4-11**] 04:40 AM
   Fentanyl - [**2200-4-11**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-11**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.7
C (99.8
   HR: 68 (68 - 94) bpm
   BP: 106/40(59) {87/31(48) - 152/68(93)} mmHg
   RR: 9 (8 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,128 mL
                                                                    717 mL
   PO:
             TF:
                                                                  1,337 mL
                                                                    380 mL
   IVF:
                                                                  1,091 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  5,095 mL
                                                                    470 mL
   Urine:
                                                                  5,095 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,967 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 752 (330 - 752) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.53/56/76.[**Numeric Identifier 299**]/39/19
   Ve: 9.1 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: PERRL, Oral mucosa moist
   NECK: Thick, trach in place with no surrounding erythema
   PULM: Diffuse coarse crackles and rhonchi anteriorly
   CARD: RR, nl S1, nl S2, II/VI systolic murmur at LLSB
   ABD: BS+, soft, ND
   EXT: no C/C/E
   NEURO:  Sedated, withdraws to painful stimuli, does not respond to
   commands
   Labs / Radiology
   255 K/uL
   8.8 g/dL
   125 mg/dL
   1.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   44 mg/dL
   101 mEq/L
   148 mEq/L
   26.9 %
   18.2 K/uL
        [image002.jpg]
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
                             [**2200-4-9**]  07:06 PM
                             [**2200-4-10**]  04:50 AM
                             [**2200-4-10**]  04:58 AM
                             [**2200-4-10**]  04:58 PM
                             [**2200-4-11**]  03:28 AM
                             [**2200-4-11**]  03:30 AM
   WBC
   19.8
   16.1
   18.2
   Hct
   30.2
   29.4
   26.9
   Plt
   263
   247
   255
   Cr
   1.3
   1.2
   1.3
   1.3
   TCO2
   37
   35
   36
   41
   43
   48
   Glucose
   143
   92
   101
   125
   Other labs: PT / PTT / INR:16.6/>150.0/1.5, ALT / AST:13/32, Alk Phos /
   T Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:76.3 %,
   Band:1.0 %, Lymph:18.4 %, Mono:2.7 %, Eos:2.5 %, Lactic Acid:3.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Continuing adjustment of vent settings. Urine
   legionella antigen is negative. Sputum and BAL sample with no growth.
   Had rapid viral antigens return as negative. PCP stain was negative.
   Patient is ventilated on pressure support 8 over 10 of PEEP and has
   been tolerating aside from brief desaturations. FiO2 currently at 50%,
   which has improved in last three days.
   - wean vent as tolerates.
   - All abx discontinued as unclear source of treatment.  Monitor status
   off abx
   - f/u cultures
   - Continue albuterol and ipratropium
   - steroids off as of [**4-10**].
   - Fluid balance -500cc - 1L
   - increase PO sedation to 15mg valium TID and start methadone 10mg TID
   - attempt to wean drip sedation
   # Fever:
   Patient has been intermittently spiking overnight and previously for
   days. Had fever to 101.5.  Has new blood and urine cultures pending.
   All blood cultures and urine cultures negative thus far. Is c. diff
   negative. Will start to consider other causes of fever at this time.
   LFT normal.  All abx discontinued on [**4-9**] due to unclear source of
   treatment and continued fevers despite adequate course and selection of
   empiric antibiotics.  Persistently elevated LDH likely from underlying
   lung disease.  BUE U/S shows RUE DVT, heparin drip started, however not
   clear if this is source of fever.
   - Follow-up pending blood and urine cultures.
   - pull PICC today (place new PICC/midline)
   # Alkalosis: Likely from diruesis
   - start Diamox 250mg [**Hospital1 **] x4 doses
   #Hypernatremia: at 148 today.
   - free water flushes in tube feeds at 100 mL every 4 hours
   # Diabetes/hyperglycemia:
   No current evidence of DKA. Improved glycemic control on insulin drip
   with [**Last Name (un) 72**] following. Discussed with pharmacy regarding mixing abx and
   other meds in NS rather than D5 (only Levaquin will remain in D5 as
   this is pre-mixed).
   - Cont insulin drip
   - Increased glargine to 10 units twice daily
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   FEN:  Tube feeds
   Prophylaxis: Pneumoboots/heparin, PPI, Bowel regimen
   Access:  PICC
   Code: Full code
   Dipso:  ICU for now while intubated
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-11**] 01:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-04-11 09:40:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    60 yo women with ARDS/PNA.  Prednisone stopped.  Got agitated
   overnight and Peep increased to 12, and then decreased to 10.  Started
   on zyprexa and valium.
   24 Hour Events:
 ULTRASOUND - At [**2200-4-10**] 03:00 PM - found to have RUE DVT  started
   on heparin
 BLOOD CULTURED - At [**2200-4-11**] 06:15 AM
 FEVER - 102.7
F - [**2200-4-10**] 11:00 AM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Insulin - Regular - 2 units/hour
   Heparin Sodium - 600 units/hour
   Midazolam (Versed) - 8 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2200-4-11**] 04:40 AM
   Fentanyl - [**2200-4-11**] 04:45 AM
   Other medications:
   prozac
   levoxyl
   topomax
   folate
   pravastatin
   chlorhexidine
   prevacid
   insulin drip
   valproate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-11**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.2
C (100.8
   HR: 72 (65 - 94) bpm
   BP: 101/38(56) {87/31(48) - 152/68(93)} mmHg
   RR: 12 (8 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  3,128 mL
                                                                  1,015 mL
   PO:
             TF:
                                                                  1,337 mL
                                                                    510 mL
   IVF:
                                                                  1,091 mL
                                                                    335 mL
   Blood products:
   Total out:
                                                                  5,095 mL
                                                                    740 mL
   Urine:
                                                                  5,095 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,967 mL
                                                                    275 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 804 (639 - 804) mL
   PS : 8 cmH2O
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.53/56/76.[**Numeric Identifier 299**]/39/19
   Ve: 7.2 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   255 K/uL
   125 mg/dL
   1.3 mg/dL
   39 mEq/L
   4.0 mEq/L
   44 mg/dL
   101 mEq/L
   148 mEq/L
   26.9 %
   18.2 K/uL
        [image002.jpg]
                             [**2200-4-9**]  03:49 AM
                             [**2200-4-9**]  03:52 AM
                             [**2200-4-9**]  05:04 AM
                             [**2200-4-9**]  06:04 AM
                             [**2200-4-9**]  07:06 PM
                             [**2200-4-10**]  04:50 AM
                             [**2200-4-10**]  04:58 AM
                             [**2200-4-10**]  04:58 PM
                             [**2200-4-11**]  03:28 AM
                             [**2200-4-11**]  03:30 AM
   WBC
   19.8
   16.1
   18.2
   Hct
   30.2
   29.4
   26.9
   Plt
   263
   247
   255
   Cr
   1.3
   1.2
   1.3
   1.3
   TCO2
   37
   35
   36
   41
   43
   48
   Glucose
   143
   92
   101
   125
   Other labs: PT / PTT / INR:16.6/>150.0/1.5, ALT / AST:13/32, Alk Phos /
   T Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:76.3 %,
   Band:1.0 %, Lymph:18.4 %, Mono:2.7 %, Eos:2.5 %, Lactic Acid:3.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL,
   PO4:5.6 mg/dL
   Assessment and Plan
   Respiratory failure:  underlying ILD, PNA, ARDS:  weaning down on
   ventilator, but still requiring high levels of sedation.  continue
   ventilator wean.
   Stopped steroids as no evidence  of benefit.
   sedation:  increased zyprexa.  Will start methadone and go up on valium
   and try wean down on the drips
   fevers:  continued fevers, no clear source.
   RUE DVT:  Could be cause for fever.  Will ask IV team to switch out PIC
   line - will need to hold heparin
   hypernatremia:  free water flush
   alkalosis:  likely due to contraction.  Will give diamox to reduce
   metabolic alkalosis
   DM I:  on glargine and insulin
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-11**] 01:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2200-04-12 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID recs sign off, follow cultures
   - Started methadone 10 mg three times daily, inc valium to 15tid
   - Started diamox 250 twice a day x 4 doses
   - c.diff sent
   - Ordered PICC, will be placed tomorrow, do not turn off hep gtt
   - Spiked fever to 102.6 at [**2209**] in evening
   - PEEP 8 overnight due to desats
   - Continuing to need sedation boluses during periods of agitation and
   desats
   ROS:
   Unable to obtain due to sedation.
   Allergies:
   Penicillins <Anaphylaxis>
   Lamictal (Lamotrigine) <Rash>
   Last dose of Antibiotics:
   Vancomycin - [**2200-4-9**] 09:00 AM
   Levofloxacin - [**2200-4-9**] 10:05 AM
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 65 mcg/hour
   Insulin - Regular - 4 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2200-4-12**] 01:00 AM
   Fentanyl - [**2200-4-12**] 01:00 AM
   Flowsheet Data as of  [**2200-4-12**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 37
C (98.6
   HR: 60 (60 - 73) bpm
   BP: 93/37(54) {86/34(49) - 125/47(73)} mmHg
   RR: 13 (10 - 15) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,947 mL
                                                                    760 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    391 mL
   IVF:
                                                                    797 mL
                                                                    219 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                    890 mL
   Urine:
                                                                  2,160 mL
                                                                    890 mL
   Balance:
                                                                    547 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 721 (560 - 804) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.44/53/77.[**Numeric Identifier 253**]/33/9
   Ve: 11.9 L/min
   PaO2 / FiO2: 156
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: AT/NC,
   NECK: Tracheostomy site with stitches removed
   PULM: Coarse breath sounds, no wheezes
   CARD: RR, nl S1, nl S2
   ABD: BS+, soft, non-distended
   EXT: no C/C/E, no erythema at right PICC site
   NEURO: Sedated, does not respond to vocal stimulation, does not follow
   commands
   Labs / Radiology
   256 K/uL
   9.2 g/dL
   135 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.0 mEq/L
   34 mg/dL
   101 mEq/L
   139 mEq/L
   28.1 %
   19.1 K/uL
        [image002.jpg]
                             [**2200-4-10**]  04:58 PM
                             [**2200-4-11**]  03:28 AM
                             [**2200-4-11**]  03:30 AM
                             [**2200-4-11**]  11:10 AM
                             [**2200-4-11**]  03:16 PM
                             [**2200-4-11**]  03:30 PM
                             [**2200-4-11**]  06:00 PM
                             [**2200-4-12**]  12:14 AM
                             [**2200-4-12**]  04:17 AM
                             [**2200-4-12**]  04:33 AM
   WBC
   18.2
   19.1
   Hct
   26.9
   28.1
   Plt
   255
   256
   Cr
   1.3
   1.3
   1.1
   0.9
   TCO2
   48
   48
   47
   44
   42
   37
   Glucose
   101
   125
   82
   135
   Other labs: PT / PTT / INR:14.0/74.6/1.2, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:79.7 %,
   Band:1.0 %, Lymph:13.6 %, Mono:2.8 %, Eos:3.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   MICRO:
   [**2200-4-11**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL NEGATIVE
   [**2200-4-11**]  BLOOD CULTURE Blood Culture, Routine-PENDING NO GROWTH TO
   DATE
   [**2200-4-10**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL NEGATIVE
   [**2200-4-10**]  BLOOD CULTURE Blood Culture, Routine-PENDING NO GROWTH TO
   DATE
   [**2200-4-8**]  RESPIRATORY CULTURE-FINAL NO GROWTH
   [**2200-4-6**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL NEGATIVE
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Her current hypoxia likely tied to her fevers,
   leukocytosis, and sputum production (community-acquired pneumonia) on
   top of poor baseline. Now acutely worsened respiratory status requiring
   intubation and trach. Continuing adjustment of vent settings. Urine
   legionella antigen is negative. Sputum and BAL sample with no growth.
   Had rapid viral antigens return as negative. PCP stain was negative.
   Patient is ventilated on pressure support 8 over 8 of PEEP and has been
   tolerating aside from brief desaturations in periods of agitation. FiO2
   currently at 50% unless agitated, then need for higher FiO2.
   - Liberate from vent as tolerates.
   - Continue albuterol and ipratropium
   - Steroids off as of [**4-10**].
   - Fluid balance -500cc - 1L
   - Continue PO sedation valium 15mg TID and methadone 10mg TID
   - Attempt to liberate from drip sedation
   # Mental status:
   Patient with unknown underlying mental status as sedation wean is
   limited by desaturations. Had concerning time period of hypoxia
   surrounding her intubation.
   - Head CT today or tomorrow when stable enough for travel to assess
   # Fever:
   Patient has been spiking overnight and previously for days. Had fever
   to 102.6 last night. All blood cultures and urine cultures negative
   thus far. Is c. diff negative for 3 samples. Will start to consider
   other causes of fever at this time. LFTs normal.  All abx discontinued
   on [**4-9**] due to unclear source of treatment and continued fevers despite
   adequate course and selection of empiric antibiotics.  Persistently
   elevated LDH likely from underlying lung disease.  BUE U/S shows RUE
   DVT, heparin drip started, however not clear if this is source of
   fever.
   - Follow-up pending blood cultures.
   - Pull PICC today (place new PICC/midline)
   - CT sinuses and abdomen today or tomorrow when stable enough for
   travel to assess for possible nidus of infection that has been
   previously missed
   # Upper extremity DVT:
Nonocclusive thrombus in the right basilic vein extending through the
   right axillary vein and into the right subclavian vein.
   - Heparin drip
   - Discontinue PICC line on right and place new line on left
   # Alkalosis:
   Likely from diuresis. Bicarb has decreased to 33 today on chem panel.
   - Diamox 250mg [**Hospital1 **] x4 doses ending on night of [**4-12**]
   #Hypernatremia:
   At 139 today.
   - Decrease free water flushes in tube feeds at 150 mL every 6 hours
   # Diabetes/hyperglycemia:
   Decreased need for insulin drip. [**Last Name (un) 72**] following.
   - Discontinue insulin drip
   - Increase glargine to 25 units twice daily
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Boost Glucose Control - [**2200-4-12**] 12:20 AM 55 mL/hour
   Glycemic Control:  Insulin drip and glargine
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: Pneumoboots and heparin drip
   Stress ulcer: PPI
   VAP:  HOB elevation, oral care
   Communication:  With partner, [**Name (NI) 5207**] [**Name (NI) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU

2200-04-12 11:14:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: PNA, ARDS in setting of ILD
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2200-4-11**] 05:15 PM
 FEVER - 102.6
C - [**2200-4-11**] 08:19 PM
PEEP increased to 8 for desat o/n.  Now back to 5 this morning
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2200-4-9**] 04:00 PM
   Infusions:
   Heparin Sodium - 700 units/hour
   Midazolam (Versed) - 4 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Fentanyl - [**2200-4-12**] 08:59 AM
   Midazolam (Versed) - [**2200-4-12**] 10:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-12**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.5
C (97.7
   HR: 65 (60 - 73) bpm
   BP: 83/40(54) {83/34(49) - 125/47(73)} mmHg
   RR: 13 (10 - 17) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,947 mL
                                                                  1,179 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    493 mL
   IVF:
                                                                    797 mL
                                                                    326 mL
   Blood products:
   Total out:
                                                                  2,400 mL
                                                                  1,220 mL
   Urine:
                                                                  2,160 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    547 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 718 (560 - 804) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 18
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.44/53/77.[**Numeric Identifier 253**]/33/9
   Ve: 10.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, trache
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   256 K/uL
   135 mg/dL
   0.9 mg/dL
   33 mEq/L
   4.0 mEq/L
   34 mg/dL
   101 mEq/L
   139 mEq/L
   28.1 %
   19.1 K/uL
        [image002.jpg]
                             [**2200-4-10**]  04:58 PM
                             [**2200-4-11**]  03:28 AM
                             [**2200-4-11**]  03:30 AM
                             [**2200-4-11**]  11:10 AM
                             [**2200-4-11**]  03:16 PM
                             [**2200-4-11**]  03:30 PM
                             [**2200-4-11**]  06:00 PM
                             [**2200-4-12**]  12:14 AM
                             [**2200-4-12**]  04:17 AM
                             [**2200-4-12**]  04:33 AM
   WBC
   18.2
   19.1
   Hct
   26.9
   28.1
   Plt
   255
   256
   Cr
   1.3
   1.3
   1.1
   0.9
   TCO2
   48
   48
   47
   44
   42
   37
   Glucose
   101
   125
   82
   135
   Other labs: PT / PTT / INR:14.0/74.6/1.2, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:79.7 %,
   Band:1.0 %, Lymph:13.6 %, Mono:2.8 %, Eos:3.7 %, Lactic Acid:1.1
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure:
   -PNA subsequent ARDS in setting of underlying ILD
   -trached
   -cont wean vent as tolerated
   sedation:
   -agitation at times e.g. turns
   -methadone started, weaning down drips
   fevers:
   -continued fevers spiking since 8th, source unclear
   -? med related
   -sinusitis possibility given NGT in extended period of time
   -also possible DVT though it is higher than would typically expect
   RUE DVT:
   -on heparin drip
   -pull line once establish new access
   hypernatremia:
   -free water flush
   alkalosis:
   -? contraction
   DM I:
   -on insuline drip & glargine
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2200-04-13 07:29:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Received new left PICC line and right PICC was pulled
   - Was unable to go down for CT scan due to lability of blood pressure
   and oxygen sats
   - Patient with multiple episodes of agitation associated with desats
   that were requiring higher and higher doses of boluses over drip
   sedation
   - When patient was resting comfortable, often had systolics in the high
   80s (MAPs in mid-50s), though systolics would rise to 160s with
   agitation
   - Patient was transiently on pressure control ventiilation; however,
   this mode did not appear to affect the number of episodes of agitation
   - Had several episodes of bradycardia and a few beats of vetricular
   escape during cough and periods of highest agitation prior to desats
   ROS: Unable to obtain due to sedation and unresponsiveness.
   Allergies:
   Penicillins <Anaphylaxis>
   Lamictal (Lamotrigine) <Rash>
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2200-4-12**] 12:11 PM
   Fentanyl - [**2200-4-13**] 06:25 AM
   Midazolam (Versed) - [**2200-4-13**] 06:28 AM
   Flowsheet Data as of  [**2200-4-13**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 53 (35 - 82) bpm
   BP: 135/45(70) {83/33(49) - 186/63(103)} mmHg
   RR: 19 (11 - 60) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  5,046 mL
                                                                    658 mL
   PO:
             TF:
                                                                    926 mL
                                                                    406 mL
   IVF:
                                                                  2,749 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  2,960 mL
                                                                    435 mL
   Urine:
                                                                  2,175 mL
                                                                    435 mL
   NG:
                                                                    785 mL
   Balance:
                                                                  2,086 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 161 (161 - 764) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 29 cmH2O
   SpO2: 89%
   ABG: 7.39/47/74/26/2
   Ve: 14.4 L/min
   PaO2 / FiO2: 148
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: AT/NC, PERRL, oral mucosa moist
   NECK: Tracheostomy site with stitches removed, some surrounding trauma,
   though no active bleeding or signs of infection
   PULM: Coarse breath sounds, no wheezes
   CARD: RR, nl S1, nl S2
   ABD: BS+, soft, non-distended
   EXT: no C/C/E, no erythema at right PICC site
   NEURO: Sedated, does not respond to vocal stimulation, does not follow
   commands
   Labs / Radiology
   194 K/uL
   9.3 g/dL
   142 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.1 mEq/L
   27 mg/dL
   104 mEq/L
   136 mEq/L
   28.4 %
   19.5 K/uL
        [image002.jpg]
                             [**2200-4-11**]  03:16 PM
                             [**2200-4-11**]  03:30 PM
                             [**2200-4-11**]  06:00 PM
                             [**2200-4-12**]  12:14 AM
                             [**2200-4-12**]  04:17 AM
                             [**2200-4-12**]  04:33 AM
                             [**2200-4-12**]  06:13 PM
                             [**2200-4-13**]  12:38 AM
                             [**2200-4-13**]  03:14 AM
                             [**2200-4-13**]  04:22 AM
   WBC
   19.1
   19.5
   Hct
   28.1
   28.4
   Plt
   256
   194
   Cr
   1.1
   0.9
   0.7
   TCO2
   47
   44
   42
   37
   33
   30
   30
   Glucose
   82
   135
   142
   Other labs: PT / PTT / INR:13.8/60.8/1.2, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:79.7 %,
   Band:1.0 %, Lymph:13.6 %, Mono:2.8 %, Eos:3.7 %, Lactic Acid:0.9
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Had acutely worsened respiratory status requiring
   intubation and trach. Finished antibiotic course of vnacomycin and
   levofloxacin. Urine legionella antigen is negative. Sputum and BAL
   sample with no growth. Had rapid viral antigens return as negative. PCP
   stain was negative. Steroid burst for 6 days was discontinued on
   [**2200-4-10**]. Patient is ventilated on pressure support 12 over 8 of PEEP
   and has been tolerating aside from brief desaturations in periods of
   agitation. FiO2 currently at 50% unless agitated, then need for higher
   FiO2. Patient has begun having more frequent periods of agitation,
   which are newly associated with hypertension and bradycardia. The
   bradycardia has been severe enough to elicit a ventricular escape
   rhythm. Concern that bradycardia and hypertension may be related to
   increased ICH; however, exam does not corroborate at this time. Will
   remove methadone, as it is a new medication that was started around
   same time as beginning of bradycardic episodes. Has fortunately not
   been hypotensive during bradycardia.
   - Discontinue methadone due to concerns for bradycardia and start
   fentanyl patch
   - Continue PO sedation valium 15mg TID
   - Continue olanzapine 10 mg [**Hospital1 **]
   - Attempt to liberate from drip sedation as episodes of hypertension
   and desats may be unrelated to sedation.
   - Attempt to correlate frequency of episodes with amount of sedation
   - Liberate from vent as tolerates.
   - Continue albuterol and ipratropium
   - Fluid balance goal of  -500cc - 1L
   # Mental status:
   Patient with unknown underlying mental status as sedation wean is
   limited by desaturations. Had concerning time period of hypoxia
   surrounding her intubation.
   - Head CT this AM
   # Fever:
   Afebrile in last 24 hours. Patient had been spiking fevers daily
   [**Last Name (un) 3538**] on [**2200-4-1**]. Last fever was on [**4-11**] at 1600.  Has 9 negative
   blood cultures this admission with two blood cultures pending and
   negative. All urine cultures negative. Is c. diff negative for 3
   samples. Will start to consider other causes of fever at this time.
   LFTs normal.  All abx discontinued on [**4-9**] due to unclear source of
   treatment and continued fevers despite adequate course and selection of
   empiric antibiotics.  Persistently elevated LDH likely from underlying
   lung disease.  BUE U/S shows RUE DVT, heparin drip started, however not
   clear if this is source of fever. Attempt at CT of sinuses and abdomen
   yesterday foiled by combination of no IV access and labile blood
   pressures.
   - Follow-up pending blood cultures.
   - CT sinuses today.
   # Upper extremity DVT:
Nonocclusive thrombus in the right basilic vein extending through the
   right axillary vein and into the right subclavian vein.
 Right PICC has
   been discontinued.
   - Heparin drip
   # Alkalosis:
   Has resolved to HCO3 of 26 (down from peak of 41).
   - Discontinue acetazolamide
   #Hypernatremia:
   At 136 today.
   - Decrease free water flushes in tube feeds at 100 mL every 6 hours
   # Diabetes/hyperglycemia:
   Decreased need for insulin drip. [**Last Name (un) 72**] following.
   - Copntinue glargine to 25 units twice daily, titrate up sliding scale
   as needed
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Boost Glucose Control - [**2200-4-12**] 12:20 AM 55 mL/hour
   Glycemic Control:  Insulin drip and glargine
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: Pneumoboots and heparin drip
   Stress ulcer: PPI
   VAP:  HOB elevation, oral care
   Communication:  With partner, [**Name (NI) 5207**] [**Name (NI) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU

2200-04-14 07:09:00 Physician Resident Progress Note
Chief Complaint: Hypoxia
   24 Hour Events:
   - Head CT with prelim read of no acute pathology
   - Sinus CT with prelim read of findings consistent with acute sinusitis
   - Continued to have episodes of desat to 90% with apparent agitation.
   These would resolve spotaneously.
   - Tube feeds held around 8pm for high residuals, restarted at lower
   rate.
   - Fever to 100.7, pan-cultured
   - Episodes of hypotension to SBP in 70's, got 500cc bolus x3 with good
   result
   ROS:
   Unable to obtain due to sedation.
   Allergies:
   Penicillins <Anaphylaxis>
   Lamictal (Lamotrigine) <Rash>
   Infusions:
   Heparin Sodium - 900 units/hour
   Fentanyl - 70 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Fentanyl - [**2200-4-14**] 06:20 AM
   Midazolam (Versed) - [**2200-4-14**] 06:20 AM
   Flowsheet Data as of  [**2200-4-14**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.7
C (98
   HR: 76 (32 - 85) bpm
   BP: 127/50(75) {73/35(51) - 184/136(139)} mmHg
   RR: 28 (10 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 64 Inch
             Total In:
                                                                  2,249 mL
                                                                  1,430 mL
   PO:
             TF:
                                                                    684 mL
                                                                    209 mL
   IVF:
                                                                  1,245 mL
                                                                  1,221 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    209 mL
   Urine:
                                                                  1,180 mL
                                                                    209 mL
   NG:
                                                                    240 mL
   Balance:
                                                                    829 mL
                                                                  1,221 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI: 25
   RSBI Deferred: Hemodynamic Instability
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.38/48/74 at 0330 this AM
   Ve: 11.5 L/min
   PaO2 / FiO2: 74
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: AT/NC, PERRL, oral mucosa moist
   NECK: Tracheostomy site with stitches removed and no active bleeding or
   signs of infection
   PULM: Coarse breath sounds, no wheezes
   CARD: RR, nl S1, nl S2
   ABD: BS+, soft, non-distended
   EXT: no C/C/E, no erythema at left PICC site
   NEURO: Sedated, does not respond to vocal stimulation, does not follow
   commands
   Labs / Radiology
   130 K/uL
   7.6 g/dL
   90 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   107 mEq/L
   137 mEq/L
   23.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2200-4-12**]  04:17 AM
                             [**2200-4-12**]  04:33 AM
                             [**2200-4-12**]  06:13 PM
                             [**2200-4-13**]  12:38 AM
                             [**2200-4-13**]  03:14 AM
                             [**2200-4-13**]  04:22 AM
                             [**2200-4-13**]  03:11 PM
                             [**2200-4-13**]  09:21 PM
                             [**2200-4-14**]  03:20 AM
                             [**2200-4-14**]  03:36 AM
   WBC
   19.1
   19.5
   14.7
   Hct
   28.1
   28.4
   23.3
   Plt
   [**Telephone/Fax (3) 5887**]
   Cr
   0.9
   0.7
   0.7
   TCO2
   37
   33
   30
   30
   29
   30
   29
   Glucose
   135
   142
   90
   Other labs: PT / PTT / INR:14.1/53.0/1.2, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:81.2 %,
   Band:1.0 %, Lymph:12.7 %, Mono:3.4 %, Eos:2.4 %, Lactic Acid:1.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Had acutely worsened respiratory status requiring
   intubation and trach. Finished antibiotic course of vancomycin and
   levofloxacin. Urine legionella antigen is negative. Sputum and BAL
   sample with no growth. Had rapid viral antigens return as negative. PCP
   stain was negative. Steroid burst for 6 days was discontinued on
   [**2200-4-10**]. Patient is ventilated on pressure support 12 over 8 of PEEP
   and has been tolerating aside from brief desaturations in periods of
   agitation. FiO2 currently at 50% unless agitated, then need for higher
   FiO2. Patient began having more frequent periods of agitation, which
   were newly associated with hypertension and bradycardia overnight on
   [**2200-4-12**]. The bradycardia was severe enough to elicit a ventricular
   escape rhythm. We discontinued methadone, as it is a new medication
   that was started around same time as beginning of bradycardic episodes.
   Has fortunately not been hypotensive during bradycardia.
   - Continue PO sedation valium 15 mg TID
   - Continue olanzapine 10 mg [**Hospital1 **]
   - Continue attempt to liberate from drip sedation as episodes of
   hypertension and desats may be unrelated to sedation.
   - Attempt to correlate frequency of episodes of desats with amount of
   sedation
   - Liberate from vent as tolerates.
   - Continue albuterol and ipratropium
   # Mental status:
   Patient with unknown underlying mental status as sedation wean is
   limited by desaturations. Had concerning time period of hypoxia
   surrounding her intubation. Head CT prelim without pathology.
   - Follow-up final head CT read
   - Consider neurology consult if patient remains unresponsive as
   sedation further lightened
   # Fever:
   Spiked again last night.  Has 9 negative blood cultures this admission
   with two blood cultures pending and negative. All urine cultures
   negative. Is c. diff negative for 3 samples. Will start to consider
   other causes of fever at this time. LFTs normal.  All abx discontinued
   on [**4-9**] due to unclear source of treatment and continued fevers despite
   adequate course and selection of empiric antibiotics.  Persistently
   elevated LDH likely from underlying lung disease.  BUE U/S shows RUE
   DVT, heparin drip started, however not clear if this is source of
   fever. CT sinuses prelim consistent with acute sinusitis.
   - Follow-up pending blood cultures.
   - Follow-up final CT sinus read and move NG tube to opposite nostril if
   sinusitis isolated to side of NG tube, otherwise, remove NG and place
   OG tube
   - Saline nasal rinse
   # High tube feed residuals:
   In last two days has had tube feeds stopped due to high residuals.
   - Initiate metoclopramide 10 mg QID and restart tube feeds after dosing
   # Anemia:
   HCT drop from 28.4 yesterday to 23.3 today. NG aspirate negative for
   occult blood. Concern due to heparin drip being restarted.
   - Check stool guaiac
   - Evening HCT check
   # Upper extremity DVT:
Nonocclusive thrombus in the right basilic vein extending through the
   right axillary vein and into the right subclavian vein.
 Right PICC has
   been discontinued.
   - Heparin drip
   # Alkalosis:
   Has resolved to HCO3 of 26 (down from peak of 41).
   - Discontinue acetazolamide
   #Hypernatremia:
   At 137 today.
   - Maintain free water flushes in tube feeds at 100 mL every 6 hours
   # Diabetes/hyperglycemia:
   Decreased need for insulin drip. [**Last Name (un) 72**] following.
   - Copntinue glargine to 25 units twice daily, titrate up sliding scale
   as needed
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Boost Glucose Control - [**2200-4-12**] 12:20 AM 55 mL/hour (held
   for high residuals at this time)
   Glycemic Control:  Insulin drip and glargine
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: Pneumoboots and heparin drip
   Stress ulcer: PPI
   VAP:  HOB elevation, oral care
   Communication:  With partner, [**Name (NI) 5207**] [**Name (NI) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU

2200-04-14 10:31:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: PNA, ARDS, ILD, enecephalopathy (? anoxic)
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2200-4-13**] 09:00 PM
 URINE CULTURE - At [**2200-4-13**] 09:19 PM
 SPUTUM CULTURE - At [**2200-4-13**] 10:00 PM
   - head CT
     - acute sinusitis\
     - no acute pathology
   - destat this morning - requiring increased FiO2 afterward
   -weaning sedation
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 70 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Fentanyl - [**2200-4-14**] 06:20 AM
   Midazolam (Versed) - [**2200-4-14**] 06:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-14**] 10:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.8
C (98.3
   HR: 73 (41 - 85) bpm
   BP: 102/44(63) {73/35(51) - 196/136(139)} mmHg
   RR: 15 (12 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,249 mL
                                                                  1,631 mL
   PO:
             TF:
                                                                    684 mL
                                                                    315 mL
   IVF:
                                                                  1,245 mL
                                                                  1,316 mL
   Blood products:
   Total out:
                                                                  1,420 mL
                                                                    304 mL
   Urine:
                                                                  1,180 mL
                                                                    304 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                    829 mL
                                                                  1,327 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 16
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 100%
   RSBI: 25
   PIP: 15 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.31/53/99.[**Numeric Identifier 299**]/25/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 99
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, trached
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   130 K/uL
   90 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   107 mEq/L
   137 mEq/L
   23.3 %
   14.7 K/uL
        [image002.jpg]
                             [**2200-4-12**]  04:33 AM
                             [**2200-4-12**]  06:13 PM
                             [**2200-4-13**]  12:38 AM
                             [**2200-4-13**]  03:14 AM
                             [**2200-4-13**]  04:22 AM
                             [**2200-4-13**]  03:11 PM
                             [**2200-4-13**]  09:21 PM
                             [**2200-4-14**]  03:20 AM
                             [**2200-4-14**]  03:36 AM
                             [**2200-4-14**]  09:18 AM
   WBC
   19.5
   14.7
   Hct
   28.4
   23.3
   Plt
   194
   130
   Cr
   0.7
   0.7
   TCO2
   37
   33
   30
   30
   29
   30
   29
   28
   Glucose
   142
   90
   Other labs: PT / PTT / INR:14.1/53.0/1.2, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:81.2 %,
   Band:1.0 %, Lymph:12.7 %, Mono:3.4 %, Eos:2.4 %, Lactic Acid:1.0
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:2.7 mg/dL
   Assessment and Plan
   Respiratory failure:
   -PNA with subsequent ARDS in setting of underlying ILD
   -trached
   -cont wean vent as tolerated - currently on PSV
   -requiring more FiO2 after episode of agitation.  In past have been
   able to titrate down fairly rapidly afterwards.
   sedation:
   -agitation at times
      -above causing bolus/increase sedating meds
       -d/c methadone as can cause brady
       -start fentanyl patch instead
   -fewer brady episodes than prior 24hrs-- and pure sinus brady, no
   ventricular escape beats
    fevers:
   -afebrile x 24hrs
   -? med related vs. sinusitis possibility given NGT in extended period
   of time vs. DVT
   -sinusitis on CT
     -decongestants
     -OGT
   RUE DVT:
   -cont heparin drip
   Mental Status
   -suspect significant anoxic hit from period prior to establishing
   surgical airway
   -no myoclonus but 10 days out and still not responsive
   -attempting to pull back sedating meds but challenge due to periods of
   agitation
   -CT head - no acute pathology
   - MRI would be next step but not ready for length of study
   -likely will need EEG to r/o NCSE
   -neuro consult
    hypernatremia:
   -free water flush
   alkalosis:
   -? contraction - diamox
   DM I:
   -glargine  SSRI
    Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-13**] 04:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-6**] 08:00 PM
   PICC Line - [**2200-4-12**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2200-04-15 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -NGT removed, OGT placed
   -temp to 101 bcx sent
   -dysynchronous c/ vent c/ episode of desat to high 80s, sedation
   increased, switched to pressure control of 15, inc peep to 12, FiO2 90
   -Episode of hypotension to SBPs in 70s after increased sedation- give
   1250 cc NS bolus without response, started on phenylephrine
 FEVER - 101.9
F - [**2200-4-14**] 11:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,200 units/hour
   Phenylephrine - 1 mcg/Kg/min
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2200-4-14**] 09:30 PM
   Fentanyl - [**2200-4-14**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-15**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 36.7
C (98
   HR: 70 (41 - 90) bpm
   BP: 112/41(63) {77/29(42) - 196/68(106)} mmHg
   RR: 27 (12 - 33) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,486 mL
                                                                  1,726 mL
   PO:
             TF:
                                                                    392 mL
                                                                    149 mL
   IVF:
                                                                  1,744 mL
                                                                  1,577 mL
   Blood products:
   Total out:
                                                                    724 mL
                                                                    110 mL
   Urine:
                                                                    724 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,762 mL
                                                                  1,616 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 721 (721 - 763) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 90%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 94%
   ABG: 7.30/51/72/23/-1
   Ve: 13.1 L/min
   PaO2 / FiO2: 80
   Physical Examination
   GEN: Tracheostomy, sedated
   HEENT: AT/NC, PERRL, oral mucosa moist
   NECK: Tracheostomy site with stitches removed and no active bleeding or
   signs of infection
   PULM: Coarse breath sounds, no wheezes
   CARD: RR, nl S1, nl S2
   ABD: BS+, soft, non-distended
   EXT: no C/C/E, no erythema at left PICC site
   NEURO: Sedated, does not respond to vocal stimulation, does not follow
   commands
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   95 K/uL
   7.5 g/dL
   155 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   23.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2200-4-14**]  03:36 AM
                             [**2200-4-14**]  09:18 AM
                             [**2200-4-14**]  12:54 PM
                             [**2200-4-14**]  03:44 PM
                             [**2200-4-14**]  05:17 PM
                             [**2200-4-14**]  06:31 PM
                             [**2200-4-14**]  10:48 PM
                             [**2200-4-15**]  01:14 AM
                             [**2200-4-15**]  04:38 AM
                             [**2200-4-15**]  04:58 AM
   WBC
   18.3
   Hct
   23.2
   23.1
   Plt
   95
   Cr
   1.0
   TCO2
   29
   28
   30
   28
   28
   29
   29
   26
   Glucose
   122
   155
   Other labs: PT / PTT / INR:15.2/98.5/1.3, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:81.2 %,
   Band:1.0 %, Lymph:12.7 %, Mono:3.4 %, Eos:2.4 %, Lactic Acid:1.6
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   60 year old female with ILD, DM I; admit with cough, dyspnea and
   evidence of pneumonia on CXR, to MICU with persistent tachypnea and
   relatively high oxygen requirements.
   # Hypoxia:
   With history of ILD/baseline abnormal lungs she likely has poor
   pulmonary reserve. Had acutely worsened respiratory status requiring
   intubation and trach. Finished antibiotic course of vancomycin and
   levofloxacin. Urine legionella antigen is negative. Sputum and BAL
   sample with no growth. Had rapid viral antigens return as negative. PCP
   stain was negative. Steroid burst for 6 days was discontinued on
   [**2200-4-10**]. FiO2 was weaned down to 50% but is now increased to 90%.
   Patient began having more frequent periods of agitation, which were
   newly associated with hypertension and bradycardia overnight on
   [**2200-4-12**]. The bradycardia was severe enough to elicit a ventricular
   escape rhythm.  We discontinued methadone, as it is a new medication
   that was started around same time as beginning of bradycardic episodes.
   Has fortunately not been hypotensive during bradycardia. Assist control
   was switched to pressure support 15 and 12 of PEEP and has having
   episodes of becoming dysynchronous from the vent associated with
   decreased sedation levels. Overnight sedation level was significantly
   increased.
   - Continue PO sedation valium 15 mg TID
   - Continue olanzapine 10 mg [**Hospital1 **]
   - Sedation increased as difficulty ventilating overnight, wean as
   tolerated
   - Increased vent settings o/n- will liberate from vent as tolerated
   - Continue albuterol and ipratropium
   # Hypotension: Overnight episodes of hypotension after increasing
   sedation for respiratory status. Unresponsive to fluid bolus. Improved
   slightly with weaning of sedation, however not tolerating decreased
   sedation from a respiratory standpoint.
   - Wean sedation as tolerated
   - Phenylephrine as needed for pressure support
   # Mental status:
   Patient with unknown underlying mental status as sedation wean is
   limited by desaturations. Had concerning time period of hypoxia
   surrounding her intubation. Head CT prelim without pathology.
   - Follow-up final head CT read
   - Consider neurology consult if patient remains unresponsive as
   sedation further lightened
   # Fever:
   Continues to spike fevers nightly with no source identified.  No source
   identified. Not currently on antibiotics, completed course of abx
   earlier in hospital course, Has 9 negative blood cultures this
   admission with two blood cultures pending and negative. All urine
   cultures negative. Is c. diff negative for 3 samples. Will start to
   consider other causes of fever at this time. LFTs normal.  All abx
   discontinued on [**4-9**] due to unclear source of treatment and continued
   fevers despite adequate course and selection of empiric antibiotics.
   Persistently elevated LDH likely from underlying lung disease.  BUE U/S
   shows RUE DVT, heparin drip started, however not clear if this is
   source of fever. CT sinuses shows ? sinusitis. NGT discontinued
   secondary to sinusitis.
   - Follow-up pending blood cultures.
   - NGT discontinued and switched to OGT
   - Saline nasal rinse
   # High tube feed residuals:
   In last two days has had tube feeds stopped due to high residuals.
   - Initiate metoclopramide 10 mg QID and restart tube feeds after dosing
   # Anemia:
   HCT drop from 28.4 yesterday to 23.3 today. NG aspirate negative for
   occult blood. Concern due to heparin drip being restarted.
   - Check stool guaiac
   - Evening HCT check
   # Upper extremity DVT:
Nonocclusive thrombus in the right basilic vein extending through the
   right axillary vein and into the right subclavian vein.
 Right PICC has
   been discontinued.
   -Has been on heparin drip, platelets now trending down, will d/c
   heparin drip.
   # Alkalosis:
   Has resolved to HCO3 of 23 (down from peak of 41).
   - Discontinue acetazolamide
   #Hypernatremia:
   At 139 today.
   - Maintain free water flushes in tube feeds at 100 mL every 6 hours
   # Diabetes/hyperglycemia:
   Decreased need for insulin drip. [**Last Name (un) 72**] following.
   - Copntinue glargine to 25 units twice daily, titrate up sliding scale
   as needed
   - Follow-up [**Last Name (un) 72**] recs
   # Depression:
   - Continue home meds.
   ICU Care
   Nutrition: Boost Glucose Control - [**2200-4-12**] 12:20 AM 55 mL/hour (held
   for high residuals at this time)
   Glycemic Control:  Insulin drip and glargine
   Lines:
   PICC Line - [**2200-4-3**] 06:50 PM
   Arterial Line - [**2200-4-6**] 08:00 PM
   20 Gauge - [**2200-4-9**] 03:00 AM
   Prophylaxis:
   DVT: Pneumoboots and heparin drip
   Stress ulcer: PPI
   VAP:  HOB elevation, oral care
   Communication:  With partner, [**Name (NI) 5207**] [**Name (NI) 334**] [**Telephone/Fax (1) 5650**]
   Code status: Full code
   Disposition: ICU

2200-04-15 09:29:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 yo women with ILD, DM I, admitted with PNA, ARDS, respiratory
   failure.    Has had difficulty with sedation - getting agitated with
   lowering of sedation and HOTNsive with increase of sedation.  Started
   on
   neosynephrine.  Has continued to spike fevers.
   24 Hour Events:
 FEVER - 101.9
F - [**2200-4-14**] 11:00 PM
   Allergies:
   Penicillins
   Anaphylaxis;
   Lamictal (Oral) (Lamotrigine)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Heparin Sodium - 1,200 units/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2200-4-14**] 09:30 PM
   Fentanyl - [**2200-4-14**] 09:30 PM
   Other medications:
   fluoxetine
   levoxyl
   topamax
   folate
   pravastastin
   valproate
   MVI
   olanzipine
   valium
   fentanyl patch
   insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-4-15**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 37.3
C (99.1
   HR: 67 (67 - 90) bpm
   BP: 118/43(66) {77/29(42) - 165/55(92)} mmHg
   RR: 16 (12 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,486 mL
                                                                  1,904 mL
   PO:
             TF:
                                                                    392 mL
                                                                    181 mL
   IVF:
                                                                  1,744 mL
                                                                  1,653 mL
   Blood products:
   Total out:
                                                                    724 mL
                                                                    220 mL
   Urine:
                                                                    724 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,762 mL
                                                                  1,684 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: PCV+Assist
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 721 (721 - 763) mL
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 93%
   ABG: 7.30/51/72/23/-1
   Ve: 15.1 L/min
   PaO2 / FiO2: 72
   Physical Examination
   General Appearance: Well nourished, dysynchronous with vent
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   95 K/uL
   155 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.6 mEq/L
   19 mg/dL
   109 mEq/L
   139 mEq/L
   23.1 %
   18.3 K/uL
        [image002.jpg]
                             [**2200-4-14**]  03:36 AM
                             [**2200-4-14**]  09:18 AM
                             [**2200-4-14**]  12:54 PM
                             [**2200-4-14**]  03:44 PM
                             [**2200-4-14**]  05:17 PM
                             [**2200-4-14**]  06:31 PM
                             [**2200-4-14**]  10:48 PM
                             [**2200-4-15**]  01:14 AM
                             [**2200-4-15**]  04:38 AM
                             [**2200-4-15**]  04:58 AM
   WBC
   18.3
   Hct
   23.2
   23.1
   Plt
   95
   Cr
   1.0
   TCO2
   29
   28
   30
   28
   28
   29
   29
   26
   Glucose
   122
   155
   Other labs: PT / PTT / INR:15.2/98.5/1.3, ALT / AST:13/32, Alk Phos / T
   Bili:184/0.3, Amylase / Lipase:31/21, Differential-Neuts:81.2 %,
   Band:1.0 %, Lymph:12.7 %, Mono:3.4 %, Eos:2.4 %, Lactic Acid:1.6
   mmol/L, Albumin:2.6 g/dL, LDH:917 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   Respiratory faiure:  hypoxemia much worse today.  Saturation in low 90s
   on 100% FiO2.   Overall although she had improved late last week, most
   recent worsening with very stiff lungs suggests that her chances of
   eventually getting off vent are very poor.  Will discuss with her
   partner but she had stated that likely she would not want aggressive
   care if she was unlikely to come off of vent.
   Fevers:  Continued fevers without source.
   DM I:  continue insulin
   ICU Care
   Nutrition:
   Ensure (Full) - [**2200-4-14**] 10:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-4-6**] 08:00 PM
   PICC Line - [**2200-4-12**] 04:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Had discussion with patient
s HCP [**Name (NI) 2668**] [**Name (NI) 334**].  Explained to her that
   Ms. [**Known lastname 5897**] has become significantly worse since this past Friday,
   requiring increasing oxygen, increasing vent support , and increased
   levels of sedation to keep her comfortable.  There is a good likelihood
   that this was not just a PNA, but a sudden worsening of her IPF c/w a
   flare or acute interstitial PNA.  It would be difficult to know for
   certain, but her chances of getting of the ventilator are very poor.
   [**Doctor First Name 5207**] said that she would like to discuss with patient
s siblings, but
   is comfortable having her be DNR from now.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2200-4-15**] 13:35 ------